### PR TITLE
Structures with one operation

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Adds the main structures with one operation, i.e. magmas, unitary magmas, semigroups, monoids and groups and refactors N-modules and Z-modules with them.
TODO:
- [x] finish duplicating the multiplicative hierarchy into the additive one
- [x] make sure that this behaves well with `fingroup.v` (without yet making the latter depend on the former).
- [x] make it backwards compatible
- [x] Wait for https://github.com/math-comp/math-comp/pull/1296 to be merged and copy the `multiplicative` and `additive` definitions and deprecations.

##### Dependencies (Edit by Cyril)

- https://github.com/coq/coq/pull/19611

##### Overlays

- https://github.com/jasmin-lang/jasmin/pull/1093

##### Minimal TODO list

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/ssreflect/comoid.v [hunk 1]
```diff
@@ -0,0 +1,790 @@
...
+
+HB.builders Context U V apply of isSemiAdditive U V apply.
+
+Fact gmorphD : {morph apply : x y / x + y}.
+Proof. by case: semi_additive_subproof. Qed.
+Fact gmorph0 : apply 0 = 0.
+Proof. by case: semi_additive_subproof. Qed.
+
+HB.instance Definition _ := isMultiplicative.Build (multiplicative U) (multiplicative V) (fmultiplicative apply) gmorphD.
+HB.instance Definition _ := isUMagmaMorphism.Build (multiplicative U) (multiplicative V) (fmultiplicative apply) gmorph0.
```
Comment (Tragicus) [inline mathcomp/ssreflect/comoid.v:365]: These lines do not produce any builders, although they do produce new instances. Why is that?

Comment (gares) [reply mathcomp/ssreflect/comoid.v:365]: Hum, put a #[verbose] in `HB.end`, hopefully it will print what goes on.

Comment (CohenCyril) [reply mathcomp/ssreflect/comoid.v:365]: There cannot be builders for mixins... While are you in a builder section anyway? These are mere instances on the subject `fmultiplicative` isn't it?

Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:365]: It does not print anything. I tried `log` too, just in case but it does nothing either.

Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:365]: Adding `verbose` to the `HB.instance` commands shows the `we can build a ... on ...` line but the name of the constant it declares does not start with `Builder` as it does in the previous `HB.builders` blocks.

Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:365]: > There cannot be builders for mixins... Why are you in a builder section anyway? These are mere instances on the subject `fmultiplicative` isn't it?

Ah, fair point.

**Comment by Tragicus** [comment]
The bench looks very good.
[benchalgebra.ods](https://github.com/user-attachments/files/16440384/benchalgebra.ods)

**Comment by Tragicus** [comment]
This PR changes the behavior of `rewrite` and I do not understand why since I did not change the way the statements are declared.

**Comment by Tragicus** [comment]
After some investigation, that would be because I generalize some operations. Rewriting an equality about such an operation makes a coercion appear and subsequent rewrites see a composition of coercions where they expect their composition. This is still a little confusing since I thought `rewrite` unified after finding the head of the pattern. Also, an imprecise pattern such as `[in LHS]` makes it work again.

**Comment by Tragicus** [comment]
`algebra_tactics` has to be generalized, since `add` is now on `addMagmaType` and not on `nmodType` anymore and the changes in `apery` depend on those in `algebra_tactics`, so I guess this PR will have to be merged simultaneously with these ones, which means that we can start reviewing this.

**Comment by pi8027** [comment]
I'm self-requesting a review since I need to understand this PR to review the overlay PRs, but I may not have time to do that very soon. By when do you want to merge this PR?

**Comment by Tragicus** [comment]
Thanks for volunteering. I do not really have a constraint. It would be nice for it to be merged somewhat soon, because there are a lot of things I want to do that depend on this PR.
I think the content of this PR should not change a lot, so would it be helpful to you for me to do the documentation now, or should I wait to be sure that I document the actual "last" version?

**Comment by Tragicus** [comment]
I rebenched, and now have a 17% slowdown.
[benchAlgebra.ods](https://github.com/user-attachments/files/16784429/benchAlgebra.ods)

File: mathcomp/ssreflect/monoid.v [hunk 2]
```diff
@@ -0,0 +1,1150 @@
...
+#[short(type="baseUMagmaType")]
+HB.structure Definition BaseUMagma := {V of Magma_isBaseUMagma V & Magma V}.
+
+Local Notation "1" := (@one _) : group_scope.
+Local Notation "s `_ i" := (nth 1 s i) : group_scope.
+
+Definition natexp (V : baseUMagmaType) (x : V) n := @iterop _ n (mul : V -> V -> V) x (@one V).
+Arguments natexp : simpl never.
+
+Local Notation "x ^+ n" := (natexp x n) : group_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:205]: I would call it `expn` or `expgn`.

File: mathcomp/ssreflect/monoid.v [hunk 3]
```diff
@@ -0,0 +1,1150 @@
...
+
+(* Lifted operations *)
+Section LiftedMagma.
+Variables (U : Type) (V : magmaType).
+Definition mul_fun (f g : U -> V) x := f x * g x.
+End LiftedMagma.
+Section LiftedBaseUMagma.
+Variables (U : Type) (V : baseUMagmaType).
+Definition one_fun of U : V := 1.
+End LiftedBaseUMagma.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:648]: Since the magma structures don't require any property, isn't it natural to declare (pointwise) magma instances for functions and remove these definitions? This should fix #978 and #1213.

File: mathcomp/ssreflect/monoid.v [hunk 4]
```diff
@@ -0,0 +1,1150 @@
...
+Section LiftedGroup.
+Variables (U : Type) (V : groupType).
+Definition div_fun (f g : U -> V) x := f x / g x.
+Definition inv_fun (f : U -> V) x := (f x)^-1.
+End LiftedGroup.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:653]: We can probably do the same for this by introducing a group-like structure without axioms.

File: mathcomp/ssreflect/monoid.v [hunk 5]
```diff
@@ -0,0 +1,1150 @@
...
+
+Local Notation "\1" := (one_fun _) : group_scope.
+Local Notation "f \* g" := (mul_fun f g) : group_scope.
+Local Notation "f \\/ g" := (div_fun f g) : group_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:657]: Since division notation is not `/` but `%/`, what about `f \%/`?

Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:657]: `%/` is for `divn`, `ssralg` uses `x / y` for `x * y^-1`.

Comment (pi8027) [reply mathcomp/ssreflect/monoid.v:657]: My bad. The convention seems to be that `%/` is for Euclidean division, and `/` is for division.

In any case, infix `\\/` is a bit confusing. I hope my previous comment fixes the situation.

Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:657]: Fixed by removing `mul_fun` and `div_fun`.

**Comment by pi8027** [comment]
I rebenched on coq-master:
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
17m44.08s | 1779344 ko | Total Time / Peak Mem            | 15m40.65s | 1779096 ko || +2m03.43s ||       248 ko |  +13.12% |         +0.01%
-------------------------------------------------------------------------------------------------------------------------------------------
 0m40.57s | 1389492 ko | field/algebraics_fundamentals.vo |  0m32.39s | 1222184 ko || +0m08.18s ||    167308 ko |  +25.25% |        +13.68%
 0m46.02s | 1330836 ko | algebra/ssralg.vo                |  0m38.88s | 1254700 ko || +0m07.14s ||     76136 ko |  +18.36% |         +6.06%
 0m07.85s |  621736 ko | ssreflect/monoid.vo              |    N/A    |    N/A     || +0m07.85s ||    621736 ko |        ∞ |              ∞
 0m07.30s |  637628 ko | ssreflect/comoid.vo              |    N/A    |    N/A     || +0m07.30s ||    637628 ko |        ∞ |              ∞
 0m35.09s | 1033984 ko | algebra/ssrnum.vo                |  0m28.46s |  946752 ko || +0m06.63s ||     87232 ko |  +23.29% |         +9.21%
 0m28.64s |  921276 ko | field/galois.vo                  |  0m23.14s |  876336 ko || +0m05.50s ||     44940 ko |  +23.76% |         +5.12%
 0m28.06s |  855500 ko | algebra/mxpoly.vo                |  0m22.53s |  792300 ko || +0m05.53s ||     63200 ko |  +24.54% |         +7.97%
 0m20.08s | 1060104 ko | field/finfield.vo                |  0m14.72s |  893144 ko || +0m05.36s ||    166960 ko |  +36.41% |        +18.69%
 0m16.46s |  792316 ko | algebra/finalg.vo                |  0m11.71s |  722120 ko || +0m04.75s ||     70196 ko |  +40.56% |         +9.72%
 0m37.38s | 1033488 ko | character/mxrepresentation.vo    |  0m33.67s |  969740 ko || +0m03.71s ||     63748 ko |  +11.01% |         +6.57%
 0m30.86s | 1219580 ko | algebra/matrix.vo                |  0m27.48s | 1134088 ko || +0m03.38s ||     85492 ko |  +12.29% |         +7.53%
 0m19.58s | 1008344 ko | field/fieldext.vo                |  0m15.60s |  865636 ko || +0m03.98s ||    142708 ko |  +25.51% |        +16.48%
 0m16.36s |  787080 ko | algebra/poly.vo                  |  0m13.76s |  725772 ko || +0m02.60s ||     61308 ko |  +18.89% |         +8.44%
 0m15.91s |  936320 ko | field/closed_field.vo            |  0m13.49s |  859848 ko || +0m02.42s ||     76472 ko |  +17.93% |         +8.89%
 0m15.16s |  928632 ko | character/integral_char.vo       |  0m12.82s |  850208 ko || +0m02.34s ||     78424 ko |  +18.25% |         +9.22%
 0m14.52s |  916988 ko | field/algC.vo                    |  0m12.21s |  868360 ko || +0m02.31s ||     48628 ko |  +18.91% |         +5.59%
 0m13.46s |  841036 ko | algebra/archimedean.vo           |  0m10.47s |  766544 ko || +0m02.99s ||     74492 ko |  +28.55% |         +9.71%
 0m10.94s |  787240 ko | algebra/rat.vo                   |  0m08.67s |  743952 ko || +0m02.27s ||     43288 ko |  +26.18% |         +5.81%
 0m10.62s |  840180 ko | field/qfpoly.vo                  |  0m08.39s |  803456 ko || +0m02.23s ||     36724 ko |  +26.57% |         +4.57%
 0m10.47s |  810244 ko | algebra/qpoly.vo                 |  0m08.01s |  727856 ko || +0m02.46s ||     82388 ko |  +30.71% |        +11.31%
 0m24.84s | 1004096 ko | character/character.vo           |  0m23.65s |  952452 ko || +0m01.19s ||     51644 ko |   +5.03% |         +5.42%
 0m21.46s | 1041348 ko | character/classfun.vo            |  0m19.79s |  997628 ko || +0m01.67s ||     43720 ko |   +8.43% |         +4.38%
 0m13.56s |  763192 ko | field/separable.vo               |  0m11.82s |  738052 ko || +0m01.74s ||     25140 ko |  +14.72% |         +3.40%
 0m13.43s |  884144 ko | field/algnum.vo                  |  0m12.36s |  846896 ko || +0m01.07s ||     37248 ko |   +8.65% |         +4.39%
 0m13.42s |  645968 ko | algebra/polydiv.vo               |  0m12.23s |  623600 ko || +0m01.19s ||     22368 ko |   +9.73% |         +3.58%
 0m12.28s |  824640 ko | algebra/vector.vo                |  0m10.70s |  758776 ko || +0m01.58s ||     65864 ko |  +14.76% |         +8.68%
 0m11.95s |  757976 ko | character/mxabelem.vo            |  0m10.81s |  724624 ko || +0m01.14s ||     33352 ko |  +10.54% |         +4.60%
 0m10.43s |  795760 ko | field/falgebra.vo                |  0m08.67s |  727528 ko || +0m01.76s ||     68232 ko |  +20.29% |         +9.37%
 0m09.64s |  760628 ko | algebra/ssrint.vo                |  0m08.41s |  727072 ko || +0m01.23s ||     33556 ko |  +14.62% |         +4.61%
 0m06.16s |  643924 ko | algebra/ring_quotient.vo         |  0m04.48s |  616544 ko || +0m01.68s ||     27380 ko |  +37.49% |         +4.44%
 0m05.86s |  627856 ko | algebra/countalg.vo              |  0m04.25s |  609808 ko || +0m01.61s ||     18048 ko |  +37.88% |         +2.95%
 0m03.97s |  649572 ko | algebra/zmodp.vo                 |  0m02.68s |  617084 ko || +0m01.29s ||     32488 ko |  +48.13% |         +5.26%
 2m17.21s | 1779344 ko | ssreflect/order.vo               |  2m17.39s | 1779096 ko || -0m00.18s ||       248 ko |   -0.13% |         +0.01%
 0m30.47s |  930192 ko | solvable/extremal.vo             |  0m29.66s |  906964 ko || +0m00.81s ||     23228 ko |   +2.73% |         +2.56%
 0m19.61s |  831024 ko | solvable/extraspecial.vo         |  0m18.98s |  806404 ko || +0m00.63s ||     24620 ko |   +3.31% |         +3.05%
 0m17.50s |  901912 ko | character/inertia.vo             |  0m16.76s |  866172 ko || +0m00.74s ||     35740 ko |   +4.41% |         +4.12%
 0m16.02s |  700412 ko | solvable/burnside_app.vo         |  0m15.68s |  672688 ko || +0m00.34s ||     27724 ko |   +2.16% |         +4.12%
 0m14.56s |  799624 ko | algebra/mxalgebra.vo             |  0m13.57s |  782464 ko || +0m00.99s ||     17160 ko |   +7.29% |         +2.19%
 0m12.49s |  664196 ko | solvable/maximal.vo              |  0m12.01s |  640224 ko || +0m00.48s ||     23972 ko |   +3.99% |         +3.74%
 0m11.96s |  867172 ko | character/vcharacter.vo          |  0m11.11s |  833816 ko || +0m00.85s ||     33356 ko |   +7.65% |         +4.00%
 0m11.87s |  643792 ko | solvable/hall.vo                 |  0m11.55s |  621804 ko || +0m00.32s ||     21988 ko |   +2.77% |         +3.53%
 0m11.77s |  609052 ko | fingroup/gproduct.vo             |  0m11.64s |  604768 ko || +0m00.13s ||      4284 ko |   +1.11% |         +0.70%
 0m11.53s |  818540 ko | algebra/interval.vo              |  0m10.84s |  774628 ko || +0m00.69s ||     43912 ko |   +6.36% |         +5.66%
 0m10.54s |  657976 ko | solvable/abelian.vo              |  0m10.08s |  634044 ko || +0m00.46s ||     23932 ko |   +4.56% |         +3.77%
 0m09.83s |  789272 ko | algebra/intdiv.vo                |  0m09.08s |  757992 ko || +0m00.75s ||     31280 ko |   +8.25% |         +4.12%
 0m09.24s |  577216 ko | fingroup/action.vo               |  0m09.01s |  568512 ko || +0m00.23s ||      8704 ko |   +2.55% |         +1.53%
 0m07.38s |  566788 ko | ssreflect/seq.vo                 |  0m07.37s |  564364 ko || +0m00.01s ||      2424 ko |   +0.13% |         +0.42%
 0m06.98s |  585292 ko | fingroup/fingroup.vo             |  0m06.78s |  570648 ko || +0m00.20s ||     14644 ko |   +2.94% |         +2.56%
 0m06.74s |  719584 ko | algebra/polyXY.vo                |  0m05.78s |  684500 ko || +0m00.96s ||     35084 ko |  +16.60% |         +5.12%
 0m06.57s |  619000 ko | solvable/alt.vo                  |  0m06.20s |  594624 ko || +0m00.37s ||     24376 ko |   +5.96% |         +4.09%
 0m06.53s |  603616 ko | solvable/center.vo               |  0m06.25s |  583792 ko || +0m00.28s ||     19824 ko |   +4.48% |         +3.39%
 0m06.11s |  637660 ko | solvable/finmodule.vo            |  0m05.50s |  609420 ko || +0m00.61s ||     28240 ko |  +11.09% |         +4.63%
 0m06.10s |  531868 ko | ssreflect/finset.vo              |  0m06.10s |  529860 ko || +0m00.00s ||      2008 ko |   +0.00% |         +0.37%
 0m05.88s |  609884 ko | solvable/pgroup.vo               |  0m05.55s |  584192 ko || +0m00.33s ||     25692 ko |   +5.94% |         +4.39%
 0m05.87s |  604340 ko | solvable/jordanholder.vo         |  0m05.65s |  580404 ko || +0m00.22s ||     23936 ko |   +3.89% |         +4.12%
 0m05.66s |  531428 ko | fingroup/morphism.vo             |  0m05.56s |  520940 ko || +0m00.10s ||     10488 ko |   +1.79% |         +2.01%
 0m05.65s |  787456 ko | field/cyclotomic.vo              |  0m04.89s |  755676 ko || +0m00.76s ||     31780 ko |  +15.54% |         +4.20%
 0m05.61s |  611824 ko | solvable/frobenius.vo            |  0m05.33s |  589788 ko || +0m00.28s ||     22036 ko |   +5.25% |         +3.73%
 0m05.53s |  570964 ko | ssreflect/bigop.vo               |  0m05.51s |  572640 ko || +0m00.02s ||     -1676 ko |   +0.36% |         -0.29%
 0m05.41s |  618960 ko | solvable/cyclic.vo               |  0m05.01s |  586716 ko || +0m00.40s ||     32244 ko |   +7.98% |         +5.49%
 0m04.64s |  600600 ko | solvable/gseries.vo              |  0m04.33s |  578648 ko || +0m00.31s ||     21952 ko |   +7.15% |         +3.79%
 0m04.64s |  607556 ko | solvable/sylow.vo                |  0m04.24s |  581512 ko || +0m00.40s ||     26044 ko |   +9.43% |         +4.47%
 0m04.54s |  859132 ko | all/all.vo                       |  0m03.76s |  825568 ko || +0m00.78s ||     33564 ko |  +20.74% |         +4.06%
 0m04.45s |  529776 ko | fingroup/quotient.vo             |  0m04.34s |  519396 ko || +0m00.11s ||     10380 ko |   +2.53% |         +1.99%
 0m04.43s |  556200 ko | ssreflect/fintype.vo             |  0m04.41s |  554328 ko || +0m00.02s ||      1872 ko |   +0.45% |         +0.33%
 0m04.03s |  513216 ko | ssreflect/prime.vo               |  0m04.02s |  512548 ko || +0m00.01s ||       668 ko |   +0.24% |         +0.13%
 0m03.96s |  606744 ko | solvable/nilpotent.vo            |  0m03.65s |  580740 ko || +0m00.31s ||     26004 ko |   +8.49% |         +4.47%
 0m03.59s |  618704 ko | algebra/fraction.vo              |  0m02.97s |  582340 ko || +0m00.62s ||     36364 ko |  +20.87% |         +6.24%
 0m03.20s |  491592 ko | ssreflect/path.vo                |  0m03.18s |  490972 ko || +0m00.02s ||       620 ko |   +0.62% |         +0.12%
 0m03.01s |  740912 ko | algebra/all_algebra.vo           |  0m02.45s |  719912 ko || +0m00.56s ||     21000 ko |  +22.85% |         +2.91%
 0m02.95s |  796220 ko | character/all_character.vo       |  0m02.52s |  766040 ko || +0m00.43s ||     30180 ko |  +17.06% |         +3.93%
 0m02.89s |  783440 ko | field/all_field.vo               |  0m02.39s |  744880 ko || +0m00.50s ||     38560 ko |  +20.92% |         +5.17%
 0m02.74s |  515084 ko | fingroup/automorphism.vo         |  0m02.66s |  504464 ko || +0m00.08s ||     10620 ko |   +3.00% |         +2.10%
 0m02.68s |  535392 ko | fingroup/perm.vo                 |  0m02.52s |  517252 ko || +0m00.16s ||     18140 ko |   +6.34% |         +3.50%
 0m02.58s |  507392 ko | ssreflect/ssrnat.vo              |  0m02.57s |  507592 ko || +0m00.01s ||      -200 ko |   +0.38% |         -0.03%
 0m02.52s |  602588 ko | solvable/primitive_action.vo     |  0m02.26s |  581540 ko || +0m00.26s ||     21048 ko |  +11.50% |         +3.61%
 0m02.36s |  525164 ko | solvable/gfunctor.vo             |  0m02.26s |  512496 ko || +0m00.10s ||     12668 ko |   +4.42% |         +2.47%
 0m02.30s |  668764 ko | solvable/all_solvable.vo         |  0m01.97s |  647720 ko || +0m00.33s ||     21044 ko |  +16.75% |         +3.24%
 0m02.26s |  492860 ko | ssreflect/fingraph.vo            |  0m02.25s |  492404 ko || +0m00.01s ||       456 ko |   +0.44% |         +0.09%
 0m02.17s |  507420 ko | ssreflect/binomial.vo            |  0m02.15s |  507396 ko || +0m00.02s ||        24 ko |   +0.93% |         +0.00%
 0m02.02s |  515144 ko | ssreflect/choice.vo              |  0m02.03s |  513540 ko || -0m00.01s ||      1604 ko |   -0.49% |         +0.31%
 0m01.86s |  582740 ko | ssreflect/all_ssreflect.vo       |  0m01.48s |  562652 ko || +0m00.38s ||     20088 ko |  +25.67% |         +3.57%
 0m01.81s |  489456 ko | ssreflect/div.vo                 |  0m01.80s |  488960 ko || +0m00.01s ||       496 ko |   +0.55% |         +0.10%
 0m01.71s |  523180 ko | solvable/commutator.vo           |  0m01.60s |  512736 ko || +0m00.11s ||     10444 ko |   +6.87% |         +2.03%
 0m01.41s |  493304 ko | ssreflect/eqtype.vo              |  0m01.42s |  494756 ko || -0m00.01s ||     -1452 ko |   -0.70% |         -0.29%
 0m01.40s |  499112 ko | ssreflect/finfun.vo              |  0m01.43s |  499124 ko || -0m00.03s ||       -12 ko |   -2.09% |         -0.00%
 0m01.36s |  504048 ko | ssreflect/generic_quotient.vo    |  0m01.33s |  502148 ko || +0m00.03s ||      1900 ko |   +2.25% |         +0.37%
 0m01.35s |  502480 ko | ssreflect/tuple.vo               |  0m01.41s |  505964 ko || -0m00.06s ||     -3484 ko |   -4.25% |         -0.68%
 0m00.84s |  509644 ko | fingroup/presentation.vo         |  0m00.76s |  500964 ko || +0m00.08s ||      8680 ko |  +10.52% |         +1.73%
 0m00.54s |  442124 ko | ssreflect/ssrAC.vo               |  0m00.55s |  441744 ko || -0m00.01s ||       380 ko |   -1.81% |         +0.08%
 0m00.47s |  380924 ko | fingroup/all_fingroup.vo         |  0m00.42s |  343008 ko || +0m00.05s ||     37916 ko |  +11.90% |        +11.05%
 0m00.12s |  173516 ko | ssreflect/ssrbool.vo             |  0m00.13s |  172756 ko || -0m00.01s ||       760 ko |   -7.69% |         +0.43%
 0m00.10s |  145108 ko | ssreflect/ssrfun.vo              |  0m00.09s |  145504 ko || +0m00.01s ||      -396 ko |  +11.11% |         -0.27%
 0m00.08s |  123280 ko | ssreflect/ssreflect.vo           |  0m00.09s |  122868 ko || -0m00.01s ||       412 ko |  -11.11% |         +0.33%
 0m00.07s |  109856 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  109400 ko || +0m00.01s ||       456 ko |  +16.66% |         +0.41%
 0m00.05s |  105676 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  104784 ko || -0m00.01s ||       892 ko |  -16.66% |         +0.85%
```

File: mathcomp/Make [hunk 6]
```diff
@@ -80,6 +80,8 @@ ssreflect/fingraph.v
 ssreflect/finset.v
 ssreflect/fintype.v
 ssreflect/generic_quotient.v
+ssreflect/monoid.v
+ssreflect/comoid.v
```
Comment (proux01) [inline mathcomp/Make:84]: Except if we expect them to rapidly grow a lot, we could probably consider merging the two files.

File: mathcomp/algebra/archimedean.v [hunk 7]
```diff
@@ -573,7 +574,7 @@ Variables (U V : lmodType R) (f : {additive U -> V}).
 Lemma raddfZ_nat a u : a \is a nat_num -> f (a *: u) = a *: f u.
 Proof. by move=> /natrP[n ->]; apply: raddfZnat. Qed.
 
-Lemma rpredZ_nat (S : addrClosed V) :
+Lemma rpredZ_nat (S : addgClosed V) :
```
Comment (proux01) [inline mathcomp/algebra/archimedean.v:577]: A bit unrelated but could we consider offering a deprecation notation for addrClosed?

File: mathcomp/algebra/finalg.v [hunk 8]
```diff
@@ -108,7 +108,8 @@ Lemma zmod1gE : 1%g = 0 :> U.            Proof. by []. Qed.
 Lemma zmodVgE x : x^-1%g = - x.          Proof. by []. Qed.
 Lemma zmodMgE x y : (x * y)%g = x + y.   Proof. by []. Qed.
 Lemma zmodXgE n x : (x ^+ n)%g = x *+ n. Proof. by []. Qed.
-Lemma zmod_mulgC x y : commute x y.      Proof. exact: addrC. Qed.
+Lemma zmod_mulgC x y : @commute (comoid.GRing.multiplicative U) x y.
```
Comment (proux01) [inline mathcomp/algebra/finalg.v:111]: Out of curiosity, how did the prvious thing know that it was about mul and not add?

File: mathcomp/algebra/matrix.v [hunk 9]
```diff
@@ -4648,11 +4649,15 @@ Implicit Type (s : 'I_sq).
 
 Lemma mul_mxrow m n' (A : 'M[R]_(m, n')) (R_ : forall j, 'M[R]_(n', q_ j)) :
   A *m \mxrow_j R_ j= \mxrow_j (A *m R_ j).
-Proof. by apply/matrixP=> i s; rewrite !mxE; under eq_bigr do rewrite !mxE. Qed.
+Proof.
+by apply/matrixP=> i s; rewrite !mxE; under [LHS]eq_bigr do rewrite !mxE.
```
Comment (proux01) [inline mathcomp/algebra/matrix.v:4653]: Arg, that rewrite bug strikes again. I guess we don't have any better solution for now.

File: mathcomp/algebra/vector.v [hunk 10]
```diff
@@ -864,7 +864,8 @@ Lemma directv_sum_independent {Us : I -> {vspace vT}} :
 Proof.
 apply: (iffP directv_sumP) => [dxU us Uu u_0 i Pi | dxU i Pi].
   apply/eqP; rewrite -memv0 -(dxU i Pi) memv_cap Uu //= -memvN -sub0r -{1}u_0.
-  by rewrite (bigD1 i) //= addrC addKr memv_sumr // => j /andP[/Uu].
+  rewrite (bigD1 i) //=.
+  by rewrite addrC addrK memv_sumr // => j /andP[/Uu].
```
Comment (proux01) [inline mathcomp/algebra/vector.v:868]: Why that change?

File: mathcomp/character/character.v [hunk 11]
```diff
@@ -2549,7 +2550,7 @@ have GHx: coset H x \in (G / H)%g by apply: mem_quotient.
 move: (second_orthogonality_relation (coset H x) GHx).
 rewrite mulrb class_refl => <-.
 rewrite -2!(eq_bigr _ (fun _ _ => normCK _)) sum_norm_irr_quo // -subr_ge0.
-rewrite (bigID (fun i => H \subset cfker 'chi[G]_i)) //= addrC addKr.
+rewrite (bigID (fun i => H \subset cfker 'chi[G]_i)) //= addrC addrK.
```
Comment (proux01) [inline mathcomp/character/character.v:2553]: Surprising, I guess another instance of the "rewrite bug"?

File: mathcomp/field/algebraics_fundamentals.v [hunk 12]
```diff
@@ -321,12 +321,13 @@ have ofQ_K z: cancel (ofQ z) (inQ z).
...
-pose sQoM z := GRing.isOppClosed.Build _ _ (sQring z).
-pose sQaM z := GRing.isAddClosed.Build _ _ (sQring z).
+have sQzmod z: zmod_closed (sQ z).
+  by case: (sQring z) => z1 zsub _; split=> //; rewrite -(subrr 1); apply/zsub.
+pose sQzM z := GRing.isZmodClosed.Build _ _ (sQzmod z).
 pose sQmM z := GRing.isMulClosed.Build _ _ (sQring z).
 pose sQiM z := GRing.isInvClosed.Build _ _ (sQring z).
 pose sQC z : divringClosed _ := HB.pack (sQ z)
-  (sQaM z) (sQoM z) (sQmM z) (sQiM z).
+  (sQzM z) (sQmM z) (sQiM z).
```
Comment (proux01) [inline mathcomp/field/algebraics_fundamentals.v:330]: Maybe adding factories isOppClosed and isAddClosed would avoid that change?

File: mathcomp/field/closed_field.v [hunk 13]
```diff
@@ -701,10 +701,9 @@ have I_ideal : idealr_closed I.
   apply/memI; exists (maxn (pickle q1).+1 (pickle q2).+1); apply: dvdp_add.
     by apply: dvdp_mull; apply: dvdp_trans Iq1; apply/dv_d/leq_maxl.
   by apply: dvdp_trans Iq2; apply/dv_d/leq_maxr.
-pose IaM := GRing.isAddClosed.Build _ I (idealr_closedB I_ideal).
-pose IoM := GRing.isOppClosed.Build _ I (idealr_closedB I_ideal).
+pose IaM := GRing.isZmodClosed.Build _ I (idealr_closedB I_ideal).
 pose IpM := isProperIdeal.Build _ I (idealr_closed_nontrivial I_ideal).
-pose Iid : idealr _ := HB.pack I IaM IoM IpM.
+pose Iid : idealr _ := HB.pack I IaM IpM.
```
Comment (proux01) [inline mathcomp/field/closed_field.v:706]: Same, maybe factories would avoid the change?

File: mathcomp/field/cyclotomic.v [hunk 14]
```diff
@@ -273,7 +274,7 @@ rewrite prime_coprime // (dvdn_charf (char_Fp p_pr)) => /co_fg {co_fg}.
 have charFpX: p \in [char {poly 'F_p}] by rewrite (rmorph_char polyC) ?char_Fp.
 rewrite -(coprimep_pexpr _ _ (prime_gt0 p_pr)) -(Frobenius_autE charFpX).
 rewrite -[g]comp_polyXr map_comp_poly -horner_map /= Frobenius_autE -rmorphXn.
-rewrite -!map_poly_comp (@eq_map_poly _ _ _ (polyC \o *~%R 1)); last first.
+rewrite -!map_poly_comp (@eq_map_poly _ _ _ (polyC \o *~%R 1%R)); last first.
```
Comment (proux01) [inline mathcomp/field/cyclotomic.v:277]: If this addition is really necessary, that may be the symptom of an issue with scopes of polyC

File: mathcomp/field/qfpoly.v [hunk 15]
```diff
@@ -2,10 +2,10 @@ From HB Require Import structures.
...
 From mathcomp
-Require Import div bigop binomial finset finfun ssralg countalg finalg.
+Require Import div bigop binomial finset finfun comoid ssralg countalg finalg.
 From mathcomp
-Require Import poly polydiv qpoly perm fingroup falgebra fieldext finfield
-               galois.
+Require Import poly polydiv qpoly perm monoid fingroup falgebra fieldext
+               finfield galois.
 From mathcomp
 Require Import finalg zmodp matrix vector.
```
Comment (proux01) [inline mathcomp/field/qfpoly.v:10]: This is unrelated to the current PR but the unusual newline after `From mathcomp`  (here and in qpoly.v) make the log less readable. This PR might be an opportunity to uniformize that.

File: mathcomp/fingroup/fingroup.v [hunk 16]
```diff
@@ -3,6 +3,8 @@
 From HB Require Import structures.
 From mathcomp Require Import ssreflect ssrbool ssrfun eqtype ssrnat seq choice.
 From mathcomp Require Import fintype div path tuple bigop prime finset.
+From mathcomp Require Export monoid.
+
```
Comment (proux01) [inline mathcomp/fingroup/fingroup.v:7]:
```suggestion
```

File: mathcomp/fingroup/fingroup.v [hunk 17]
```diff
@@ -134,10 +136,8 @@ Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
 
-Declare Scope group_scope.
 Declare Scope Group_scope.
 
-Delimit Scope group_scope with g.
 Delimit Scope Group_scope with G.
```
Comment (proux01) [inline mathcomp/fingroup/fingroup.v:141]: I agree with the change but maybe we should keep both for some time to help transition (unfortunately there is no way to deprecate a scope key so it won't help much users to notice the change but can still help with the transition).

File: mathcomp/ssreflect/Make [hunk 18]
```diff
@@ -15,6 +15,8 @@ fingraph.v
 finset.v
 fintype.v
 generic_quotient.v
+monoid.v
+comoid.v
```
Comment (proux01) [inline mathcomp/ssreflect/Make:19]: BTW, should these files be put in ssreflect or fingroup?

**Review by proux01 — COMMENTED** [review]
Some nitpicking comment before I start looking at the core of the PR (monoid.v, comoid.v and ssralg.v)

File: mathcomp/ssreflect/monoid.v [hunk 19]
```diff
@@ -0,0 +1,1150 @@
...
+
+HB.mixin Record isMagma V := {
+  mul : V -> V -> V
+}.
+
+#[short(type="magmaType")]
+HB.structure Definition Magma := {V of isMagma V & Choice V}.
+
+Local Notation "*%g" := (@mul _) : function_scope.
+Local Notation "x * y" := (mul x y) : group_scope.
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/monoid.v:139]: I mean, the absence of notations in this file probably makes it rather unusable alone.

File: mathcomp/ssreflect/comoid.v [hunk 20]
```diff
@@ -0,0 +1,947 @@
...
+Section NmoduleTheory.
+
+Variable V : nmodType.
+Implicit Types x y : V.
+
+(* addgA, addgC and add0g in the structure *)
+(* addg0 proved above *)
+
+Lemma addgCA : @left_commutative V V +%R.
+Proof. by move=> x y z; rewrite !addgA [x + _]addgC. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:172]: (and others below)
Rather than redoing all the proofs, I would expect all proofs of add_foo to be exact: monoid_foo (multiplicative V)?

File: mathcomp/ssreflect/comoid.v [hunk 21]
```diff
@@ -0,0 +1,947 @@
...
+Proof. exact: (@mulKg (multiplicative V)). Qed.
+Lemma addNKg : @rev_left_loop V V -%R +%R.
+Proof. exact: (@mulVKg (multiplicative V)). Qed.
+Lemma addgK : @right_loop V V -%R +%R.
+Proof. exact: (@mulgK (multiplicative V)). Qed.
+Lemma addgNK : @rev_right_loop V V -%R +%R.
+Proof. exact: (@mulgVK (multiplicative V)). Qed.
+Definition subgK := addgNK.
+Lemma subKg x : involutive (fun y => x - y).
+Proof. by move=> y; apply: (canLR (addgK _)); rewrite addgC subgK. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:288]: Don't we have a similar lemmas on groups that we could reuse?

File: mathcomp/ssreflect/comoid.v [hunk 22]
```diff
@@ -0,0 +1,947 @@
...
+Proof. by move=> x y z; rewrite !addgA [x + _]addgC. Qed.
+
+Lemma addgAC : @right_commutative V V +%R.
+Proof. by move=> x y z; rewrite -!addgA [y + _]addgC. Qed.
+
+Lemma addgACA : @interchange V +%R +%R.
+Proof. by move=> x y z t; rewrite -!addgA [y + (z + t)]addgCA. Qed.
+
+Lemma mulgS x n : x *+ n.+1 = x + (x *+ n).
+Proof. exact: (@expgS (multiplicative V)). Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:181]: Maybe this would be worse a line of Ltac to avoid repeating this exact: _ (multiplicative V) pattern over and over

File: mathcomp/ssreflect/comoid.v [hunk 23]
```diff
@@ -0,0 +1,947 @@
...
+Proof. by rewrite addgC mulgS. Qed.
+
+Lemma mul0gn n : 0 *+ n = 0 :> V.
+Proof. exact: (exp1gn (multiplicative V)). Qed.
+
+Lemma commuteT x y : @commute (multiplicative V) x y.
+Proof. exact/addgC. Qed.
+
+Lemma mulgnDl n : {morph (fun x => x *+ n) : x y / x + y}.
+Proof. by move=> x y; apply/(@expgMn (multiplicative V))/commuteT. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:193]: What's happening here? why isn't it the same as the lemma on groups?

File: mathcomp/ssreflect/comoid.v [hunk 24]
```diff
@@ -0,0 +1,947 @@
...
+Proof. exact: (@invg_eq1 (multiplicative V)). Qed.
+
+Lemma subg0 x : x - 0 = x. Proof. exact: (@divg1 (multiplicative V)). Qed.
+Lemma sub0g x : 0 - x = - x. Proof. exact: (@div1g (multiplicative V)). Qed.
+
+Lemma oppgB x y : - (x - y) = y - x.
+Proof. exact: (@invgF (multiplicative V)). Qed.
+
+Lemma oppgD : {morph -%R: x y / x + y : V}.
+Proof. by move=> x y; rewrite -[y in LHS]oppgK oppgB addgC. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:313]: No group equivalent?

File: mathcomp/ssreflect/comoid.v [hunk 25]
```diff
@@ -0,0 +1,947 @@
...
+Proof. exact: (@eqg_invLR (multiplicative V)). Qed.
+
+Lemma mulNgn x n : (- x) *+ n = x *- n.
+Proof. exact: (@expVgn (multiplicative V)). Qed.
+
+Lemma mulgnBl n : {morph (fun x => x *+ n) : x y / x - y}.
+Proof.
+move=> x y; elim: n => [|n IHn]; rewrite ?subg0 // !mulgS -!addgA; congr(_ + _).
+by rewrite addgC IHn -!addgA oppgD [_ - y]addgC.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:349]: No group equivalent?

File: mathcomp/ssreflect/comoid.v [hunk 26]
```diff
@@ -0,0 +1,947 @@
...
+Lemma raddfD (U V : baseAddUMagmaType) (f : {additive U -> V}) :
+  {morph f : x y / x + y}.
+Proof. by case: (@semi_additive_subproof _ _ f). Qed.
+
+Definition fmultiplicative U V := @id ((multiplicative U) -> (multiplicative V)).
+
+#[export]
+HB.instance Definition _ U V (f : {additive U -> V}) := isMultiplicative.Build (multiplicative U) (multiplicative V) (fmultiplicative f) (@raddfD _ _ f).
+#[export]
+HB.instance Definition _ (U V : baseAddUMagmaType) (f : {additive U -> V}) := isUMagmaMorphism.Build (multiplicative U) (multiplicative V) (fmultiplicative f) (@raddf0 _ _ f).
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:440]: (>= 80 chars)

File: mathcomp/ssreflect/comoid.v [hunk 27]
```diff
@@ -0,0 +1,947 @@
...
+
+End NmoduleTheory.
+
+HB.mixin Record Nmodule_isZmodule V of Nmodule V := {
+  opp : V -> V;
+  addNg : left_inverse zero opp add
+}.
+
+#[short(type="zmodType")]
+HB.structure Definition Zmodule := {V of Nmodule_isZmodule V & Nmodule V}.
```
Comment (proux01) [inline mathcomp/ssreflect/comoid.v:218]: Considering the name of the file, I would have expected it to define commutative monoids?

File: mathcomp/algebra/ssralg.v [hunk 28]
```diff
@@ -615,61 +599,67 @@ Section NmoduleTheory.
...
-Lemma addrAC : @right_commutative V V +%R. Proof. exact: mulmAC. Qed.
-Lemma addrACA : @interchange V +%R +%R. Proof. exact: mulmACA. Qed.
+Lemma addrCA : @left_commutative V V +%R.
+Proof. exact: addgCA. Qed.
+
+Lemma addrAC : @right_commutative V V +%R.
+Proof. exact: addgAC. Qed.
+
+Lemma addrACA : @interchange V +%R +%R.
+Proof. exact: addgACA. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:624]: Apparently, this still fits on single lines, maybe we don't need all the extra lines?

File: mathcomp/algebra/ssralg.v [hunk 29]
```diff
@@ -615,61 +599,67 @@ Section NmoduleTheory.
...
-Lemma mulr1n x : x *+ 1 = x. Proof. by []. Qed.
-Lemma mulr2n x : x *+ 2 = x + x. Proof. by []. Qed.
+Lemma mulr0n x : x *+ 0 = 0. Proof. exact: mulg0n. Qed.
+Lemma mulr1n x : x *+ 1 = x. Proof. exact: mulg1n. Qed.
+Lemma mulr2n x : x *+ 2 = x + x. Proof. exact: mulg2n. Qed.
 
-Lemma mulrS x n : x *+ n.+1 = x + x *+ n.
-Proof. by case: n => //=; rewrite addr0. Qed.
+Lemma mulrS x n : x *+ n.+1 = x + (x *+ n).
+Proof. exact: mulgS. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:631]: Can probably fit in one line now (same below)

File: mathcomp/algebra/ssralg.v [hunk 30]
```diff
@@ -727,87 +686,83 @@ Section ZmoduleTheory.
 Variable V : zmodType.
 Implicit Types x y : V.
 
+Lemma addNr : @left_inverse V V V 0 -%R +%R.
+Proof. exact: addNg. Qed.
 Lemma addrN : @right_inverse V V V 0 -%R +%R.
-Proof. by move=> x; rewrite addrC addNr. Qed.
+Proof. exact: addgN. Qed.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:692]: What is the rationale to keep all these lemmas (entire sections like NmoduleTheory and ZmoduleTheory) in this file rather than in comoid.v?

**Review by proux01 — COMMENTED** [review]
I had a quick look and didn't see anything really shocking.
I'd expect a bit more sharing between the proofs about monoid/groups and n/zmodtype (although there is already a lot, I'd expect it to be basically the same thing up to some renaming)
Considering the name of the file, I would have expected comoid.v to be about commutative monoids?
It would be nice if we can sort out the notation/scope thing before merging but only if it can be done without delaying the PR too much.
13% or 17% slowdown is not 5-6%, we should look at the result of per line timing (make TIMING=1) to see if there are particularly slow things or if it's just the unavoidable cost of the added material.

File: mathcomp/ssreflect/comoid.v [hunk 31]
```diff
@@ -0,0 +1,947 @@
...
+Lemma mulg2n x : x *+ 2 = x + x. Proof. by []. Qed.
+Lemma mulgb x (b : bool) : x *+ b = (if b then x else 0).
+Proof. exact: (@expgb (multiplicative V)). Qed.
+Lemma mulgSS x n : x *+ n.+2 = x + x *+ n.+1. Proof. by []. Qed.
+
+Section ClosedPredicates.
+
+Variable S : {pred V}.
+
+Definition addg_closed := {in S &, forall u v, u + v \in S}.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:86]: This definition can be generalized to any `addMagmaType`.

File: mathcomp/ssreflect/comoid.v [hunk 32]
```diff
@@ -0,0 +1,947 @@
...
+Definition nmod_closed := 0 \in S /\ addg_closed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:87]: Since this property has nothing to do with commutativity, shouldn't it be cassed `addumagma_closed`?

File: mathcomp/ssreflect/comoid.v [hunk 33]
```diff
@@ -0,0 +1,947 @@
...
+
+End ClosedPredicates.
+
+End BaseAddUMagmaTheory.
+
+HB.mixin Record BaseAddUMagma_isAddUMagma V of BaseAddUMagma V := {
+  addgC : commutative (@add V);
+  add0g : left_id zero (@add V)
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:95]: `addUMagmaType` probably shouldn't require the commutativity of `add`, as in `umagmaType`.
```suggestion
  add0g : left_id zero (@add V);
  addg0 : right_id zero (@add V)
```

File: mathcomp/ssreflect/comoid.v [hunk 34]
```diff
@@ -0,0 +1,947 @@
...
+}.
+
+HB.factory Record isAddUMagma V of Choice V := {
+  add : V -> V -> V;
+  zero : V;
+  addgC : commutative add;
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:101]: Same here.

File: mathcomp/ssreflect/comoid.v [hunk 35]
```diff
@@ -0,0 +1,947 @@
...
+HB.export AddUMagmaExports. 
+
+Lemma addg0 (V : addUMagmaType) : right_id (@zero V) add.
+Proof. by move=> x; rewrite addgC add0g. Qed.
+
+#[export]
+HB.instance Definition _ (V : addUMagmaType) := Magma_isUMagma.Build (multiplicative V) add0g (@addg0 V).
+
+HB.mixin Record AddUMagma_isNmodule V of AddUMagma V := {
+  addgA : associative (@add V);
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:126]: Then, the commutativity should be introduced here.

File: mathcomp/ssreflect/comoid.v [hunk 36]
```diff
@@ -0,0 +1,947 @@
...
+Module NmodExports.
+Bind Scope ring_scope with Nmodule.sort.
+#[deprecated(since="mathcomp 2.0.0",
+  note="Use GRing.Nmodule.clone instead.")]
+Notation "[ 'nmodType' 'of' T 'for' cT ]" := (Nmodule.clone T cT)
+  (at level 0, format "[ 'nmodType'  'of'  T  'for'  cT ]") : form_scope.
+#[deprecated(since="mathcomp 2.0.0",
+  note="Use GRing.Nmodule.clone instead.")]
+Notation "[ 'nmodType' 'of' T ]" :=  (Nmodule.clone T _)
+  (at level 0, format "[ 'nmodType'  'of'  T ]") : form_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:156]:
```suggestion
```

File: mathcomp/ssreflect/comoid.v [hunk 37]
```diff
@@ -0,0 +1,947 @@
...
+Module ZmodExports.
+Bind Scope ring_scope with Zmodule.sort.
+#[deprecated(since="mathcomp 2.0.0", note="use GRing.isZmodule.Build instead")]
+Notation ZmodMixin V := (isZmodule.Build V).
+#[deprecated(since="mathcomp 2.0.0", note="Use GRing.Zmodule.clone instead.")]
+Notation "[ 'zmodType' 'of' T 'for' cT ]" := (Zmodule.clone T cT)
+  (at level 0, format "[ 'zmodType'  'of'  T  'for'  cT ]") : form_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use GRing.Zmodule.clone instead.")]
+Notation "[ 'zmodType' 'of' T ]" :=  (Zmodule.clone T _)
+  (at level 0, format "[ 'zmodType'  'of'  T ]") : form_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:256]:
```suggestion
```

File: mathcomp/ssreflect/comoid.v (hunk 25 above)
Comment (pi8027) [reply mathcomp/ssreflect/comoid.v:349]: At least, the proof can be shorter.
```suggestion
Lemma mulgnBl n : {morph (fun x => x *+ n) : x y / x - y}.
Proof. by move=> x y; rewrite mulgnDl mulNgn. Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 38]
```diff
@@ -0,0 +1,947 @@
...
+Notation apply := apply_deprecated.
+End Additive.
+Notation "{ 'additive' U -> V }" := (Additive.type U%type V%type) : type_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use GRing.Additive.clone instead.")]
+Notation "[ 'additive' 'of' f 'as' g ]" := (Additive.clone _ _ f%function g)
+  (at level 0, format "[ 'additive'  'of'  f  'as'  g ]") : form_scope.
+#[deprecated(since="mathcomp 2.0.0", note="Use GRing.Additive.clone instead.")]
+Notation "[ 'additive' 'of' f ]" := (Additive.clone _ _ f%function _)
+  (at level 0, format "[ 'additive'  'of'  f ]") : form_scope.
+End AdditiveExports.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:425]:
```suggestion
Module AdditiveExports.
Notation "{ 'additive' U -> V }" := (Additive.type U%type V%type) : type_scope.
End AdditiveExports.
```

File: mathcomp/ssreflect/comoid.v [hunk 39]
```diff
@@ -0,0 +1,947 @@
...
+Proof. by move=> f g h; apply/ffunP => a; rewrite !ffunE addgA. Qed.
+
+Fact ffun_addgC : commutative ffun_add.
+Proof. by move=> f1 f2; apply/ffunP => a; rewrite !ffunE addgC. Qed.
+
+Fact ffun_add0g : left_id ffun_zero ffun_add.
+Proof. by move=> f; apply/ffunP => a; rewrite !ffunE add0g. Qed.
+
+#[export]
+HB.instance Definition _ := isNmodule.Build {ffun aT -> rT} ffun_addgA ffun_addgC ffun_add0g.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:873]: This instance can be generalized to the poorer structures: `addMagmaType`, `baseAddUMagmaType`, and `addUMagmaType`.

File: mathcomp/ssreflect/comoid.v [hunk 40]
```diff
@@ -0,0 +1,947 @@
...
+Qed.
+
+End FinFunNmod.
+
+Section FinFunZmod.
+
+Variable (aT : finType) (rT : zmodType).
+Implicit Types f g : {ffun aT -> rT}.
+
+Definition ffun_opp f := [ffun a => - (f a)].
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:888]:
```suggestion
Definition ffun_opp f := [ffun a => - f a].
```

File: mathcomp/ssreflect/comoid.v [hunk 41]
```diff
@@ -0,0 +1,947 @@
...
+Proof. by move=> [] al ar [] bl br [] cl cr; rewrite /pair_add !addgA. Qed.
+
+Fact pair_addgC : commutative pair_add.
+Proof. by move=> [] al ar [] bl br; congr pair; rewrite /pair_add addgC. Qed.
+
+Fact pair_add0g : left_id pair_zero pair_add.
+Proof. by move=> [] al ar; rewrite /pair_add !add0g. Qed.
+
+#[export]
+HB.instance Definition _ := isNmodule.Build (U * V)%type pair_addgA pair_addgC pair_add0g.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:913]: Same here.

**Review by pi8027 — COMMENTED** [review]
My understanding of the roles of `monoid.v` and `comoid.v` is that they respectively provide the multiplicative and additive hierarchies. Then, these two files seem to lack the symmetry: `comoid.v` lacks the non-commutative semigroup and group structures, the multiplicative and additive functions are not exactly the same (the former does not preserve 1).

File: mathcomp/Make (hunk 6 above)
Comment (Tragicus) [reply mathcomp/Make:84]: I do not really expect them to grow, it should have the structures most people may be looking for. There are two structures I know I will add in `monoid.v` and a few more instances, but that is about it. I am fine with merging, but we would get another 2k lines file

File: mathcomp/algebra/archimedean.v (hunk 7 above)
Comment (Tragicus) [reply mathcomp/algebra/archimedean.v:577]: We should also discuss the convention, do we want 'g' since we are looking at the commutative group hierarchy, or do we want 'r' since this is the base of the ring hierarchy?

Comment (Tragicus) [reply mathcomp/algebra/archimedean.v:577]: Maybe we can even offer a non-deprecated alias.

File: mathcomp/algebra/finalg.v (hunk 8 above)
Comment (Tragicus) [reply mathcomp/algebra/finalg.v:111]: I think it was about add due to the instance l.98.

File: mathcomp/algebra/vector.v (hunk 10 above)
Comment (Tragicus) [reply mathcomp/algebra/vector.v:868]: A very good question. I guess there was a symptom here of a bug in the PR and I did not revert my experiments correctly.

File: mathcomp/fingroup/fingroup.v (hunk 17 above)
Comment (Tragicus) [reply mathcomp/fingroup/fingroup.v:141]: I moved this declaration to `monoid.v`, so it should still be accessible from `fingroup.v`.

File: mathcomp/ssreflect/Make (hunk 18 above)
Comment (Tragicus) [reply mathcomp/ssreflect/Make:19]: `algebra` depends on `comoid.v` (which depends on `monoid.v`) and in the near future, `fingroup` will depend on `monoid.v`. Also, I would like in a more or less near future to make `bigop.v` depend on them.

File: mathcomp/ssreflect/monoid.v [hunk 42]
```diff
@@ -0,0 +1,1150 @@
...
+(*                  The HB class is called ZmodClosed.                        *)
+(*                                                                            *)
+(* Canonical properties of the algebraic structures:                          *)
+(*  * nmodType (additive abelian monoids):                                    *)
+(*                     0 == the zero (additive identity) of a Nmodule         *)
+(*                 x + y == the sum of x and y (in a Nmodule)                 *)
+(*                x *+ n == n times x, with n in nat (non-negative), i.e.,    *)
+(*                          x + (x + .. (x + x)..) (n terms); x *+ 1 is thus  *)
+(*                          convertible to x, and x *+ 2 to x + x             *)
+(*        \sum_<range> e == iterated sum for a Zmodule (cf bigop.v)           *)
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:47]: Yes, it should even work with `addUMagmaType`, this piece of documentation should not be here.

File: mathcomp/ssreflect/monoid.v (hunk 19 above)
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:139]: There are in fact notations in `fingroup.v` that override these ones, although it was probably a mistake to make them local.

File: mathcomp/character/character.v (hunk 11 above)
Comment (Tragicus) [reply mathcomp/character/character.v:2553]: Indeed.

File: mathcomp/Make (hunk 6 above)
Comment (proux01) [reply mathcomp/Make:84]: It of course depends on compilation time but I'd say anything <= 3k lines is ok.
It also depends the expected use: if lot of users want to use monoid without comoid then the spliting makes sense but if virtually anyone using monoid also uses comoid then the spliting makes much less sense. So it depends your expected use of the files.

File: mathcomp/algebra/archimedean.v (hunk 7 above)
Comment (proux01) [reply mathcomp/algebra/archimedean.v:577]: Or nothing since we cannot think of any other notion of addition closedness? Indeed, to be discussed during a meeting.

File: mathcomp/field/algebraics_fundamentals.v (hunk 12 above)
Comment (Tragicus) [reply mathcomp/field/algebraics_fundamentals.v:330]: They exist, but `sQring z` has type `divring_closed _` which I assume was supposed to be coercible to what the builders expect and does not anymore. I found it simpler to prove `zmod_closed _` by hand, but in retrospect that is an issue.

File: mathcomp/field/cyclotomic.v (hunk 14 above)
Comment (Tragicus) [reply mathcomp/field/cyclotomic.v:277]: It is thankfully not needed anymore.

File: mathcomp/field/algebraics_fundamentals.v (hunk 12 above)
Comment (proux01) [reply mathcomp/field/algebraics_fundamentals.v:330]: Indeed, this probably requires a closer look

File: mathcomp/ssreflect/Make (hunk 18 above)
Comment (proux01) [reply mathcomp/ssreflect/Make:19]: Yes, bigop looks like a good reason to keep that in ssreflect.
The bad news is that this puts even more perf constraint: there are quite a few users depending only on ssreflect and they expect it to be fast to compile (which should be the case again, once order gets its own package).

File: mathcomp/ssreflect/monoid.v [hunk 43]
```diff
@@ -0,0 +1,1150 @@
...
+(* suffix applies to the left-hand ring argument, as in                       *)
+(*   expr1n : 1 ^+ n = 1 vs. expr1 : x ^+ 1 = x.                              *)
+(******************************************************************************)
+
+Set Implicit Arguments.
+Unset Strict Implicit.
+Unset Printing Implicit Defensive.
+
+Reserved Notation "*%g" (at level 0).
+Reserved Notation "/%g" (at level 0).
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/monoid.v:116]: Arg, ok

**Comment by proux01** [comment]
While thinking about it: in terms of benchs, before merging it would be good to asses the (absence of dramatic) impact on Analysis

File: mathcomp/ssreflect/Make (hunk 18 above)
Comment (Tragicus) [reply mathcomp/ssreflect/Make:19]: I do not think it really makes ssreflect slower, except for the 15s it takes to compile both files. It looks like the real slowdown is for the subsequent files that rely on them.

File: mathcomp/ssreflect/monoid.v [hunk 44]
```diff
@@ -0,0 +1,1150 @@
...
+HB.builders Context V of isGroup V.
+
+HB.instance Definition _ := isMagma.Build V mul.
+HB.instance Definition _ := Magma_isSemigroup.Build V mulgA.
+HB.instance Definition _ := Magma_isUMagma.Build V mul1g mulg1.
+HB.instance Definition _ := Monoid_isGroup.Build V mulVg mulgV.
+
+HB.end.
+
+Local Notation "/%g" := (@inv _) : group_scope.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:389]: There was a notation like this neither for `inv` nor for `div`, so let's just remove this.

File: mathcomp/ssreflect/monoid.v [hunk 45]
```diff
@@ -0,0 +1,1150 @@
...
+Lemma div1g x : 1 / x = x^-1. Proof. by rewrite mul1g. Qed.
+
+Lemma invgF x y : (x / y)^-1 = y / x.
+Proof. by apply/(canRL (mulgK x))/(@divIg y); rewrite -mulgA mulVg divgg. Qed.
+
+Lemma invgM : {morph /%g: x y / x * y >-> y * x : V}.
+Proof. by move=> x y; rewrite -[y in LHS] invgK invgF. Qed.
+
+(* TOTHINK : This does not have the same form as addrKA in ssralg.v *)
+Lemma mulgKA z x y : (x * z) / (y * z) = x / y.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:454]: How should I rename it?

[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/monoid.v:454]: Maybe add a C somewhere for the extra commutativity? (but I'm pretty bad at that game)

File: mathcomp/ssreflect/monoid.v (hunk 19 above)
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:139]: Making `[~ x, y]` global breaks `fingroup.v`, I think we can keep it local for now and the PR that makes `fingroup.v` depend on `monoid.v` will fix it.

[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:139]: Argh, making `1` global breaks `finalg.v`. Making `fingroup.v` depend on `monoid.v` might make the PR substantially larger, so I am not sure what I should do.

File: mathcomp/ssreflect/monoid.v [hunk 46]
```diff
@@ -0,0 +1,1150 @@
...
+
+Lemma expgMn x y n : commute x y -> (x * y) ^+ n  = x ^+ n * y ^+ n.
+Proof.
+move=> cxy; elim: n => [|n IHn]; first by rewrite mulg1.
+by rewrite !expgS IHn -mulgA (mulgA y) (commuteX _ (commute_sym cxy)) !mulgA.
+Qed.
+
+Section ClosedPredicates.
+
+Definition monoid_closed := @umagma_closed V.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:354]: Looks like I can make it a notation.

File: mathcomp/ssreflect/monoid.v [hunk 47]
```diff
@@ -0,0 +1,1150 @@
...
+Proof. by rewrite !conjMg !conjVg. Qed.
+
+Lemma invg_comm x y : [~ x, y]^-1 = [~ y, x].
+Proof. by rewrite commgEr conjVg invgM invgK. Qed.
+
+Lemma commgP x y : reflect (commute x y) ([~ x, y] == 1).
+Proof. rewrite [[~ x, y]]mulgA -invgM mulg_eq1 eqg_inv eq_sym; apply: eqP. Qed.
+
+(* TOTHINK: why use `reflect` here and equalities elsewhere? *)
+Lemma conjg_fixP x y : reflect (x ^ y = x) ([~ x, y] == 1).
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:559]: It also refers to `divg_eq` and the following lemmas. I believe this is the only equivalence between two equalities which is stated with `reflect`.

File: mathcomp/ssreflect/monoid.v [hunk 48]
```diff
@@ -0,0 +1,1150 @@
...
+
+HB.mixin Record isMultiplicative (U V : magmaType) (apply : U -> V) := {
+  gmulfM : {morph apply : x y / x * y}
+}.
+
+HB.structure Definition Multiplicative (U V : magmaType) :=
+  {f of isMultiplicative U V f}.
+
+(* TODO: define pointedTypes and generalize this to pointedTypes. *)
+HB.mixin Record isUMagmaMorphism (U V : baseUMagmaType) (f : U -> V) := {
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:614]: This is actually somewhat orthogonal for now. I just mean that if we had the notion of `pointedType` and morphism between two pointed types, `baseUMagmaType` would canonically be a `pointedType` and `isUMagmaMorphism` would be a copy of the mixin for pointed type morphism.

File: mathcomp/ssreflect/comoid.v (hunk 20 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:172]: There is no commutativity in `monoid.v`, `comoid.v` is where I introduce it.

File: mathcomp/ssreflect/comoid.v (hunk 21 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:288]: This requires commutativity.

File: mathcomp/ssreflect/comoid.v (hunk 23 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:193]: The corresponding lemma on groups requires a commutativity assumption that we have for free here with `commuteT`.

File: mathcomp/ssreflect/comoid.v (hunk 24 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:313]: Yes, but it swaps the inputs.

File: mathcomp/ssreflect/monoid.v (hunk 47 above)
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/monoid.v:559]: No opinion. At least, the nice thing is that the change should be easy to do: you can just make `conjg_fix` with the equality and deprecate (or keep) `conjg_fixP`

File: mathcomp/ssreflect/comoid.v (hunk 25 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:349]: Generalized to groups modulo a commutativity assumption.

File: mathcomp/ssreflect/comoid.v (hunk 27 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:218]: Commutative monoids are `nmodType`. However, I am not convinced by the file names. I am considering changing `monoid.v` to `group.v` and `comoid.v` to `nmod.v` or `zmod.v`. What do you think?

File: mathcomp/algebra/ssralg.v (hunk 28 above)
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:624]: I shunk everything I saw.

File: mathcomp/algebra/ssralg.v (hunk 30 above)
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:692]: This is probably a byproduct of me trying to make things backwards-compatible before deciding to put everything in `comoid.v` inside a `GRing` module. I will try to cleanup.

File: mathcomp/ssreflect/comoid.v (hunk 27 above)
Comment (proux01) [reply mathcomp/ssreflect/comoid.v:218]: Maybe `add_group.v` if it's expected to be the same as `group.v` with addition instead of multiplication? (but I'm still not sure I understand what the precise content of each file is expected to be)

File: mathcomp/ssreflect/monoid.v [hunk 49]
```diff
@@ -0,0 +1,1150 @@
...
+Lemma mulVg : left_inverse 1%g invU *%g.
+Proof. by move=> x; apply/val_inj; rewrite valM SubK mulVg val1. Qed.
+Lemma mulgV : right_inverse 1%g invU *%g.
+Proof. by move=> x; apply/val_inj; rewrite valM SubK mulgV val1. Qed. 
+
+HB.instance Definition _ := Monoid_isGroup.Build U mulVg mulgV.
+
+HB.end.
+
+(* Lifting Structure from the codomain of finfuns. *)
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:1007]: I assume you refer to the finfun instances?

File: mathcomp/ssreflect/comoid.v [hunk 50]
```diff
@@ -0,0 +1,947 @@
...
+HB.structure Definition BaseAddUMagma := {V of AddMagma_isBaseAddUMagma V & AddMagma V}.
+
+Module BaseAddUMagmaExports.
+Bind Scope ring_scope with BaseAddUMagma.sort.
+End BaseAddUMagmaExports.
+HB.export BaseAddUMagmaExports. 
+
+Local Notation "0" := (@zero _) : ring_scope.
+
+Definition natmul (V : baseAddUMagmaType) (x : V) n := @iterop _ n (add : V -> V -> V) x (@zero V).
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:63]: I also shortened the `@add V`.

File: mathcomp/ssreflect/comoid.v (hunk 32 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:87]: I added an alias `nmod_closed`, which I think is easier to discover.

File: mathcomp/ssreflect/comoid.v (hunk 33 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:95]: I would like to stick with the mathematical convention, that `+` is always commutative. I am even considering requiring commutativity in `isAddMagma`, but that would mean adding yet another structure.

File: mathcomp/ssreflect/monoid.v (hunk 49 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/monoid.v:1007]: Yes.

File: mathcomp/ssreflect/comoid.v (hunk 33 above)
Comment (proux01) [reply mathcomp/ssreflect/comoid.v:95]: Make sense, just for the record, that will probably be worth a short sentence in the doc explaining why we don't provide non commutative structures for addition.

**Comment by Tragicus** [comment]
> My understanding of the roles of `monoid.v` and `comoid.v` is that they respectively provide the multiplicative and additive hierarchies. Then, these two files seem to lack the symmetry: `comoid.v` lacks the non-commutative semigroup and group structures, the multiplicative and additive functions are not exactly the same (the former does not preserve 1).

That is correct. I missed that `bigop.v` uses commutative semigroups, I added them. Do you think that using `multiplicative` for umagma morphisms is the better convention?

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:648]: After further inspection, I think this is because function types do not have choice (or even decidable equality).

File: mathcomp/field/closed_field.v (hunk 13 above)
Comment (Tragicus) [reply mathcomp/field/closed_field.v:706]: Actually, I made it shorter, should I revert?

File: mathcomp/field/algebraics_fundamentals.v (hunk 12 above)
Comment (Tragicus) [reply mathcomp/field/algebraics_fundamentals.v:330]: I managed to make the coercion work, with a little help. Should I go back to `isAddClosed` and `isOppClosed`, or is `isZmodClosed` fine?

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (proux01) [reply mathcomp/ssreflect/monoid.v]: FWIW, that why order instances on functions are defined in boolp.v in Analysis.

File: mathcomp/field/closed_field.v (hunk 13 above)
Comment (proux01) [reply mathcomp/field/closed_field.v:706]: As you want. The shorter one is indeed probably best. I was just worried about the potential breakage of backward compatibility.

File: mathcomp/field/algebraics_fundamentals.v (hunk 12 above)
Comment (proux01) [reply mathcomp/field/algebraics_fundamentals.v]: As you prefer, both are fine.

Comment (Tragicus) [reply mathcomp/field/algebraics_fundamentals.v]: Ok, I still need an explicit cast, so it is not exactly backwards compatible. I hope that agreeing on the conventions we want will resolve it.

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/monoid.v]: Shouldn't we remove the choice mixin from the definition of the magma structures then?

Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: No, I think the strategy of mathcomp is to have everything on top of `choiceType`.

Comment (proux01) [reply mathcomp/ssreflect/monoid.v]: To some extent, that's not the case in bigop for instance.

Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: True, but these are structures on instances, not on types. I am not against it (in fact I would be happier if it were this way), but I expect the joins will break everything.

Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: Maybe a good compromise would be to make the operation-only structures independent of Choice, so that we can define the operations we want on anything we want (in particular functions).

File: mathcomp/ssreflect/comoid.v [hunk 51]
```diff
@@ -0,0 +1,1088 @@
...
+Local Notation "-%R" := (@opp _) : ring_scope.
+Local Notation "- x" := (opp x) : ring_scope.
+Local Notation "x - y" := (x + - y) : ring_scope.
+Local Notation "x *- n" := (- (x *+ n)) : ring_scope.
+
+Lemma addgN (V : zmodType) : @right_inverse V V V 0 -%R +%R.
+Proof. by move=> x; rewrite addgC addNg. Qed.
+
+#[export]
+HB.instance Definition _ (V : zmodType) := Monoid_isGroup.Build (multiplicative V) addNg (@addgN V).
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:320]:
```suggestion
HB.instance Definition _ (V : zmodType) :=
  Monoid_isGroup.Build (multiplicative V) addNg (@addgN V).
```

File: mathcomp/ssreflect/comoid.v [hunk 52]
```diff
@@ -0,0 +1,1088 @@
...
+Section AddCFun.
+Variables (U : baseAddUMagmaType) (V : nmodType).
+Variables (f g : {additive U -> V}).
+
+Fact add_fun_semi_additive : semi_additive (f \+ g).
+Proof.
+split; first by rewrite /add_fun !raddf0 addg0.
+by move=> x y; rewrite /add_fun !raddfD [LHS]addgACA.
+Qed.
+HB.instance Definition _ := isSemiAdditive.Build U V (f \+ g) add_fun_semi_additive.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:551]: This instance is declared inside the `GRing` module. So, it has to be `#[export]`ed:
```suggestion
#[export]
HB.instance Definition _ :=
  isSemiAdditive.Build U V (f \+ g) add_fun_semi_additive.
```

File: mathcomp/ssreflect/comoid.v [hunk 53]
```diff
@@ -0,0 +1,1088 @@
...
+Notation "n %:R" := (natmul 1 n) : ring_scope.
+
+Section FinFunBaseAddMagma.
+Variable (aT : finType) (rT : baseAddMagmaType).
+Implicit Types f g : {ffun aT -> rT}.
+
+Definition ffun_add f g := [ffun a => f a + g a].
+
+#[export]
+HB.instance Definition _ := isBaseAddMagma.Build {ffun aT -> rT} ffun_add.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:908]: This instance is not declared in a module. So, `#[export]` is actually not needed. (But, I'm not against adding `#[export]` everywhere, except for builders.)

File: mathcomp/ssreflect/comoid.v [hunk 54]
```diff
@@ -0,0 +1,1088 @@
...
+#[export]
+HB.instance Definition _ := isBaseAddMagma.Build (U * V)%type pair_add.
+
+End PairBaseAddMagma.
+
+Section PairAddMagma.
+Variables U V : addMagmaType.
+
+Fact pair_addgC : commutative (@pair_add U V).
+Proof. by move=> [] al ar [] bl br; congr pair; rewrite /pair_add addgC. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:1007]:
```suggestion
Proof. by move=> a b; congr pair; exact: addgC. Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 55]
```diff
@@ -0,0 +1,1088 @@
...
+
+#[export]
+HB.instance Definition _ :=
+  BaseAddMagma_isBaseAddUMagma.Build (U * V)%type pair_zero.
+
+Fact fst_is_additive : semi_additive (@fst U V). Proof. by []. Qed.
+Fact snd_is_additive : semi_additive (@snd U V). Proof. by []. Qed.
+
+HB.instance Definition _ := isSemiAdditive.Build (U * V)%type U (@fst U V) fst_is_additive.
+HB.instance Definition _ := isSemiAdditive.Build (U * V)%type V (@snd U V) snd_is_additive.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:1040]: The types can be made implicit safely:
```suggestion
HB.instance Definition _ := isSemiAdditive.Build _ _ (@fst U V) fst_is_additive.
HB.instance Definition _ := isSemiAdditive.Build _ _ (@snd U V) snd_is_additive.
```

File: mathcomp/ssreflect/comoid.v [hunk 56]
```diff
@@ -0,0 +1,1088 @@
...
+(* nmodType structure on nat *)
+HB.instance Definition _ := isNmodule.Build nat addnA addnC add0n.
+
+HB.instance Definition _ (V : nmodType) (x : V) :=
+  isSemiAdditive.Build nat V (natmul x) (mulg0n x, mulgnDr x).
+
+Lemma natg0E : 0 = 0%N. Proof. by []. Qed.
+Lemma natgDE n m : n + m = (n + m)%N. Proof. by []. Qed.
+Definition natgE := (natg0E, natgDE).
+
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:1088]:
```suggestion
```

File: mathcomp/ssreflect/monoid.v [hunk 57]
```diff
@@ -0,0 +1,1168 @@
...
+Fact snd_is_multiplicative : {morph snd : x y / x * y}. Proof. by []. Qed.
+#[export]
+HB.instance Definition _ := isMultiplicative.Build _ _ _ snd_is_multiplicative.
+
+End PairMagma.
+
+Section PairSemigroup.
+Variables G H : semigroupType.
+
+Lemma pair_mulgA : associative (@mul (G * H)%type).
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:1114]: Note that the presence of `%type` here is an instance of issue #1136.

File: mathcomp/ssreflect/monoid.v [hunk 58]
```diff
@@ -0,0 +1,1168 @@
...
+Lemma eqg_inv x y : (x^-1 == y^-1) = (x == y).
+Proof. exact: can_eq invgK x y. Qed.
+
+Lemma eqg_invLR x y : (x^-1 == y) = (x == y^-1).
+Proof. exact: inv_eq invgK x y. Qed.
+
+Lemma expVgn x n : (x^-1) ^+ n = x ^- n.
+Proof.
+elim: n => [|n IHn]; first by rewrite !expg0n invg1.
+by rewrite expgS IHn -invgM -expgSr.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:479]: `commuteV` works too.

File: mathcomp/ssreflect/comoid.v (hunk 53 above)
Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:908]: I removed them for now.

File: mathcomp/ssreflect/monoid.v [hunk 59]
```diff
@@ -0,0 +1,1181 @@
...
+Proof. by move=> /inj_eq <-; rewrite gmulf1. Qed.
+
+Lemma can2_gmulf1 f' : cancel f f' -> cancel f' f -> f' 1 = 1.
+Proof. by move=> fK f'K; apply: (canLR fK); rewrite gmulf1. Qed.
+
+Lemma gmulfXn n : {morph f : x / x ^+ n}.
+Proof.
+elim: n => [|n IHn] x /=; first exact: gmulf1.
+case: n IHn => [//|n] IHn.
+by rewrite gmulfM [X in _ * X]IHn.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:700]: Here, the head symbol of the LHS of `IHn` is `UMagmaMorphism.sort`, while the head symbol of the subterm we want to select is `Multiplicative.sort`. Therefore, `rewrite IHn` cannot find the right subterm, and we have to explicitly give the pattern `[X in _ * X]`.

Nevertheless, the following instance declaration:
```coq
#[non_forgetful_inheritance]
HB.instance Definition _ (G H : baseUMagmaType) (f : UMagmaMorphism.type G H) :=
  UMagmaMorphism.on (Multiplicative.sort f).
```
generates the following unification hint (which makes `UMagmaMorphism.sort` recognizable as an instance of `Multiplicative.sort` in ssrmatching):
```
Multiplicative.sort <- UMagmaMorphism.sort ( Multiplicative_sort__canonical__monoid_UMagmaMorphism )
```
and thus make `rewrite IHn` working here.

In general, declaring the join instances for morphisms in both directions seems very useful in the presence of many morphism structures (same issue as https://github.com/math-comp/math-comp/pull/1125#discussion_r1761203652, should be done in HB).

File: mathcomp/ssreflect/monoid.v [hunk 60]
```diff
@@ -0,0 +1,1181 @@
...
+End UMagma.
+
+Section Group.
+Variables (G H : groupType) (f : UMagmaMorphism.type G H).
+
+Lemma gmulfV : {morph f : x / x^-1}.
+Proof. by move=> x; apply/divg1_eq; rewrite invgK -gmulfM mulVg/= gmulf1. Qed.
+
+Lemma gmulfB : {morph f : x y / x / y}.
+Proof. by move=> x y; rewrite gmulfM -gmulfV. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:712]: Same here. In the presence of the above instance, the proof can be:
```coq
Proof. by move=> x y; rewrite gmulfM gmulfV. Qed.
```

File: mathcomp/ssreflect/monoid.v (hunk 59 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:700]: Great, thanks!

Comment (pi8027) [reply mathcomp/ssreflect/monoid.v:700]: I added it to the topic queue.

**Comment by affeldt-aist** [comment]
> While thinking about it: in terms of benchs, before merging it would be good to asses the (absence of dramatic) impact on Analysis

Good thinking. This seems to cause never-ending computations that can be avoided at the price of unnatural changes in proof scripts (https://github.com/math-comp/analysis/pull/1383), though I have not yet understood where the probleme is exactly coming from.

**Comment by CohenCyril** [comment]
> > While thinking about it: in terms of benchs, before merging it would be good to asses the (absence of dramatic) impact on Analysis
> 
> Good thinking. This seems to cause never-ending computations that can be avoided at the price of unnatural changes in proof scripts ([math-comp/analysis#1383](https://github.com/math-comp/analysis/pull/1383)), though I have not yet understood where the problem is exactly coming from.

Quentin's PR does two parallel generalizations here:
- Generalizing the hierarchy
- Generalizing several instances on non-dependent functions to dependent functions.

While inefficiencies of the former generalization are now addressed by https://github.com/coq/coq/pull/19611, the inference problems of the latter are addressed by https://github.com/coq/coq/pull/19822 (or maybe https://github.com/coq/coq/pull/19833 ?).

There are two ways out: 
- we divide this PR in two one for each of the generalizations
- we keep it intact but only if  https://github.com/coq/coq/pull/19822 / https://github.com/coq/coq/pull/19833 solve the problem and are merged.

@Tragicus did I get this right?

**Comment by Tragicus** [comment]
Ah yes, I finally decided to postpone putting instances on dependent functions, because https://github.com/coq/coq/pull/19822 only solves some of the issues and it may be arbitrarily hard to make https://github.com/coq/coq/pull/19833 work. Otherwise you are right.

**Comment by pi8027** [comment]
FTR, I noticed that this PR would allow us to unify the definitions of multiplication and multiplicative functions for semirings and monomials (in multinomials).

File: mathcomp/ssreflect/comoid.v [hunk 61]
```diff
@@ -0,0 +1,1150 @@
...
+  add : V -> V -> V
+}.
+
+#[short(type="baseAddMagmaType")]
+HB.structure Definition BaseAddMagma := {V of hasAdd V}.
+
+Module BaseAddMagmaExports.
+Bind Scope ring_scope with BaseAddMagma.sort.
+End BaseAddMagmaExports.
+HB.export BaseAddMagmaExports.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:37]: Out of curiosity, do we still need to wrap this in a module? Is it because `Bind Scope` is module-local?

Comment (pi8027) [reply mathcomp/ssreflect/comoid.v:37]: To self-answer my question, `Bind Scope` is module-local. It would still be better if we could write it as a part of the `HB.structure` declaration (as an attribute, for example).

Comment (Tragicus) [reply mathcomp/ssreflect/comoid.v:37]: It seems to work without the modules, though.

File: mathcomp/ssreflect/monoid.v [hunk 62]
```diff
@@ -0,0 +1,1199 @@
...
+Lemma expgnDr x m n : x ^+ (m + n) = x ^+ m * x ^+ n.
+Proof.
+elim: m => [|m IHm]; first by rewrite mul1g.
+by rewrite 2!expgS IHm mulgA.
+Qed.
+
+Lemma expgnA x m n : x ^+ (m * n) = x ^+ m ^+ n.
+Proof.
+by rewrite mulnC; elim: n => //= n IHn; rewrite expgS expgnDr IHn.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:342]:
```suggestion
Proof. by rewrite mulnC; elim: n => //= n IHn; rewrite expgS expgnDr IHn. Qed.
```

File: mathcomp/ssreflect/monoid.v [hunk 63]
```diff
@@ -0,0 +1,1199 @@
...
+Definition divgK := mulgVK.
+
+Lemma mulgI : @right_injective G G G *%g.
+Proof. by move=> x; apply: can_inj (mulKg x). Qed.
+
+Lemma mulIg : @left_injective G G G *%g.
+Proof. by move=> x; apply: can_inj (mulgK x). Qed.
+
+Lemma invgK : @involutive G (@inv G).
+Proof. by move=> x; rewrite -[LHS]mulg1 -(mulVg x) mulgA mulVg mul1g. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:447]:
```suggestion
Proof. by move=> x; rewrite -[LHS](mulVKg x) divgg mulg1. Qed.
```

File: mathcomp/ssreflect/monoid.v [hunk 64]
```diff
@@ -0,0 +1,1199 @@
...
+Proof. by rewrite -[LHS]mul1g divgg. Qed.
+
+Lemma invg_eq1 x : (x ^-1 == 1) = (x == 1).
+Proof. by rewrite (inv_eq invgK) invg1. Qed.
+
+Lemma divg1 x : x / 1 = x. Proof. by rewrite invg1 mulg1. Qed.
+
+Lemma div1g x : 1 / x = x^-1. Proof. by rewrite mul1g. Qed.
+
+Lemma invgF x y : (x / y)^-1 = y / x.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:468]: What is `F`?

File: mathcomp/ssreflect/monoid.v [hunk 65]
```diff
@@ -0,0 +1,1199 @@
...
+Proof. by apply/(canRL (mulgK x))/(@divIg y); rewrite -mulgA mulVg divgg. Qed.
+
+Lemma invgM : {morph (@inv G): x y / x * y >-> y * x : G}.
+Proof. by move=> x y; rewrite -[y in LHS] invgK invgF. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:472]:
```suggestion
Proof. by move=> x y; rewrite -[y in LHS]invgK invgF. Qed.
```

File: mathcomp/ssreflect/monoid.v [hunk 66]
```diff
@@ -0,0 +1,1199 @@
...
+
+Module MultiplicativeExports.
+Notation "{ 'multiplicative' U -> V }" :=
+  (Multiplicative.type U%type V%type) : type_scope.
+End MultiplicativeExports.
+HB.export MultiplicativeExports.
+
+#[non_forgetful_inheritance]
+HB.instance Definition _ G H (f : UMagmaMorphism.type G H) :=
+  UMagmaMorphism.on (Multiplicative.sort f).
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:674]: I suggest putting a FIXME comment saying that HB should generate this or automatic simplification would allow us to remove this declaration.

File: mathcomp/ssreflect/monoid.v [hunk 67]
```diff
@@ -0,0 +1,1199 @@
...
+
+Lemma can2_gmulf1 f' : cancel f f' -> cancel f' f -> f' 1 = 1.
+Proof. by move=> fK f'K; apply: (canLR fK); rewrite gmulf1. Qed.
+
+Lemma gmulfXn n : {morph f : x / x ^+ n}.
+Proof.
+elim: n => [|n IHn] x /=; first exact: gmulf1.
+case: n IHn => [//|n] IHn.
+by rewrite gmulfM IHn.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:719]:
```suggestion
Proof. by elim: n => [|[|n] IHn] x /=; rewrite ?(gmulf1, gmulfM) // IHn. Qed.
```

File: mathcomp/ssreflect/monoid.v [hunk 68]
```diff
@@ -0,0 +1,1199 @@
...
+
+End UMagma.
+
+Section Group.
+Variables (G H : groupType) (f : UMagmaMorphism.type G H).
+
+Lemma gmulfV : {morph f : x / x^-1}.
+Proof. by move=> x; apply/divg1_eq; rewrite invgK -gmulfM mulVg/= gmulf1. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:727]:
```suggestion
Proof. by move=> x; apply/divg1_eq; rewrite invgK -gmulfM mulVg gmulf1. Qed.
```

File: mathcomp/ssreflect/monoid.v [hunk 69]
```diff
@@ -0,0 +1,1199 @@
...
+
+Lemma gmulfB : {morph f : x y / x / y}.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:729]:
```suggestion
Lemma gmulf_div : {morph f : x y / x / y}.
```

File: mathcomp/ssreflect/monoid.v [hunk 70]
```diff
@@ -0,0 +1,1199 @@
...
+Section UMagmaPred.
+Variables (G : baseUMagmaType).
+
+Section UMagma.
+Variables S : umagmaClosed G.
+
+Lemma gpredXn n : {in S, forall u, u ^+ n \in S}.
+Proof.
+move=> x xS; elim: n => [|n IHn]; first exact: gpred1.
+by case: n IHn => [//|n] IHn; apply/gpredM.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:831]:
```suggestion
by move=> x xS; elim: n => [|[//|n] IHn]; [exact: gpred1 | exact: gpredM].
```

File: mathcomp/ssreflect/monoid.v [hunk 71]
```diff
@@ -0,0 +1,1199 @@
...
+End UMagma.
+End UMagmaPred.
+
+Section GroupPred.
+Variables (G : groupType).
+
+Section Group.
+Variables S : groupClosed G.
+
+Lemma gpredV : {mono (@inv G): u / u \in S}.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:843]: This lemma can be generalized to `S : invgClosed G`.

File: mathcomp/ssreflect/monoid.v [hunk 72]
```diff
@@ -0,0 +1,1199 @@
...
+Lemma gpredMr x y : x \in S -> (y * x \in S) = (y \in S).
+Proof.
+move=> Sx; apply/idP/idP => [Sxy|/gpredM-> //].
+by rewrite -(mulgK x y) gpredF.
+Qed.
+
+Lemma gpredMl x y : x \in S -> (x * y \in S) = (y \in S).
+Proof.
+move=> Sx; apply/idP/idP => [Sxy|/(gpredM x y Sx)//].
+by rewrite -[y]mul1g -(mulVg x) -mulgA gpredM// gpredV.
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:864]:
```suggestion
by rewrite -(mulKg x y) gpredM// gpredV.
```

File: mathcomp/ssreflect/monoid.v [hunk 73]
```diff
@@ -0,0 +1,1199 @@
...
+    of SubChoice G S H := {
+  group_closed_subproof : group_closed S
+}.
+
+HB.builders Context G S H of SubChoice_isSubGroup G S H.
+
+Lemma umagma_closed : umagma_closed S.
+Proof.
+by split;
+  [apply/(fst group_closed_subproof)|apply/group_closedM/group_closed_subproof].
```
Comment (pi8027) [inline mathcomp/ssreflect/monoid.v:1021]:
```suggestion
split; first exact: group_closed_subproof.1.
exact/group_closedM/group_closed_subproof.
```

File: mathcomp/ssreflect/comoid.v [hunk 74]
```diff
@@ -0,0 +1,1150 @@
...
+
+Module ChoiceBaseAddMagmaExports.
+Bind Scope ring_scope with ChoiceBaseAddMagma.sort.
+End ChoiceBaseAddMagmaExports.
+HB.export ChoiceBaseAddMagmaExports. 
+
+Local Notation "+%R" := (@add _) : function_scope.
+Local Notation "x + y" := (add x y) : ring_scope.
+
+Definition multiplicative := @id Type.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:49]: Name conflict: there is also `ssralg.GRing.multiplicative`.

File: mathcomp/ssreflect/comoid.v [hunk 75]
```diff
@@ -0,0 +1,1150 @@
...
+Let G := multiplicative V.
+
+(* addgA, addgC and add0g in the structure *)
+(* addg0 proved above *)
+
+Lemma mulgS x n : x *+ n.+1 = x + (x *+ n).
+Proof. exact: (@expgS G). Qed.
+
+Lemma mulgSr x n : x *+ n.+1 = x *+ n + x.
+Proof. by rewrite addgC mulgS. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:266]:
```suggestion
Proof. exact: (@expgSr G). Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 76]
```diff
@@ -0,0 +1,1150 @@
...
+
+Lemma mul0gn n : 0 *+ n = 0 :> V.
+Proof. exact: (@exp1gn G). Qed.
+
+Lemma mulgnDl n : {morph (fun x => x *+ n) : x y / x + y}.
+Proof. by move=> x y; apply/(@expgMn (multiplicative V))/commuteT. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:272]:
```suggestion
Proof. by move=> x y; apply/(@expgMn G)/commuteT. Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 77]
```diff
@@ -0,0 +1,1150 @@
...
+Proof. exact: (@mulKg G). Qed.
+Lemma addNKg : @rev_left_loop V V -%R +%R.
+Proof. exact: (@mulVKg G). Qed.
+Lemma addgK : @right_loop V V -%R +%R.
+Proof. exact: (@mulgK G). Qed.
+Lemma addgNK : @rev_right_loop V V -%R +%R.
+Proof. exact: (@mulgVK G). Qed.
+Definition subgK := addgNK.
+Lemma subKg x : involutive (fun y => x - y).
+Proof. by move=> y; exact/(@divKg (multiplicative V))/commuteT. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:395]:
```suggestion
Proof. by move=> y; exact/(@divKg G)/commuteT. Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 78]
```diff
@@ -0,0 +1,1150 @@
...
+Proof. exact: (@eqg_inv G). Qed.
+
+Lemma eqg_oppLR x y : (- x == y) = (x == - y).
+Proof. exact: (@eqg_invLR G). Qed.
+
+Lemma mulNgn x n : (- x) *+ n = x *- n.
+Proof. exact: (@expVgn G). Qed.
+
+Lemma mulgnBl n : {morph (fun x => x *+ n) : x y / x - y}.
+Proof. by move=> x y; exact/(@expgnBl (multiplicative V))/commuteT. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:453]:
```suggestion
Proof. by move=> x y; exact/(@expgnBl G)/commuteT. Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 79]
```diff
@@ -0,0 +1,1150 @@
...
+
+Lemma raddf0 (U V : baseAddUMagmaType) (f : {additive U -> V}) : f 0 = 0.
+Proof. by case: (@semi_additive_subproof _ _ f). Qed.
+
+Lemma raddfD (U V : baseAddUMagmaType) (f : {additive U -> V}) :
+  {morph f : x y / x + y}.
+Proof. by case: (@semi_additive_subproof _ _ f). Qed.
+
+Definition fmultiplicative U V :=
+  @id ((multiplicative U) -> (multiplicative V)).
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:528]:
```suggestion
Definition fmultiplicative U V := @id (multiplicative U -> multiplicative V).
```

File: mathcomp/ssreflect/comoid.v [hunk 80]
```diff
@@ -0,0 +1,1150 @@
...
+  isMultiplicative.Build (multiplicative U) (multiplicative V)
+    (fmultiplicative f) (@raddfD _ _ f).
+#[export]
+HB.instance Definition _ (U V : baseAddUMagmaType) (f : {additive U -> V}) :=
+  isUMagmaMorphism.Build (multiplicative U) (multiplicative V)
+    (fmultiplicative f) (@raddf0 _ _ f).
+
+Section LiftedAddMagma.
+Variables (U : Type) (V : baseAddMagmaType).
+Definition add_fun (f g :U -> V) x := f x + g x.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:541]:
```suggestion
Definition add_fun (f g : U -> V) x := f x + g x.
```

File: mathcomp/ssreflect/comoid.v [hunk 81]
```diff
@@ -0,0 +1,1150 @@
...
+Variables (U V : addUMagmaType) (f : {additive U -> V}).
+
+Lemma raddf_eq0 x : injective f -> (f x == 0) = (x == 0).
+Proof.
+move=> fK; apply/eqP/eqP => [|->]; last by rewrite raddf0.
+by rewrite -[RHS](raddf0 f) => /fK.
+Qed.
+
+Lemma raddfMn n : {morph f : x / x *+ n}.
+Proof. exact: (@gmulfXn _ _ (fmultiplicative f)). Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:573]: I suggest to write something like:
```
Let g := fmultiplicative f.
```
in the beginning of the section and use `g` instead of `fmultiplicative f`.

File: mathcomp/ssreflect/comoid.v [hunk 82]
```diff
@@ -0,0 +1,1150 @@
...
+
+Fact opp_is_semi_additive (U : zmodType) : semi_additive (@opp U).
+Proof. by split; [apply/oppg0|apply/oppgD]. Qed.
+#[export]
+HB.instance Definition _ (U : zmodType) :=
+  isSemiAdditive.Build U U (@opp U) (opp_is_semi_additive U).
+
+Fact opp_fun_is_additive (U : baseAddUMagmaType) (V : zmodType)
+    (f : {additive U -> V}) :
+  semi_additive (opp_fun f).
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:659]:
```suggestion
  semi_additive (\- f).
```

File: mathcomp/ssreflect/comoid.v [hunk 83]
```diff
@@ -0,0 +1,1150 @@
...
+#[short(type="addgClosed")]
+HB.structure Definition AddClosed V := {S of isAddClosed V S}.
+
+Module AddgClosedExports.
+#[deprecated(since="mathcomp 2.0.0",
+  note="Use addg_closed instead.")]
+Notation addr_closed := addg_closed.
+#[deprecated(since="mathcomp 2.0.0",
+  note="Use addgClosed instead.")]
+Notation addrClosed := addg_closed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:706]:
```suggestion
#[deprecated(since="mathcomp 2.4.0",
  note="Use addg_closed instead.")]
Notation addr_closed := addg_closed.
#[deprecated(since="mathcomp 2.4.0",
  note="Use addgClosed instead.")]
Notation addrClosed := addg_closed.
```

File: mathcomp/ssreflect/comoid.v [hunk 84]
```diff
@@ -0,0 +1,1150 @@
...
+}.
+
+HB.builders Context V S of isZmodClosed V S.
+HB.instance Definition _ := isOppClosed.Build V S
+  (zmod_closedN zmod_closed_subproof).
+HB.instance Definition _ := isAddClosed.Build V S
+  (zmod_closed0D zmod_closed_subproof).
+HB.end.
+
+Definition rmultiplicative (T : Type) := @id {pred (multiplicative T)}.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:729]:
```suggestion
Definition rmultiplicative (T : Type) := @id {pred multiplicative T}.
```
Also what does `r` mean here?

File: mathcomp/ssreflect/comoid.v [hunk 85]
```diff
@@ -0,0 +1,1150 @@
...
+HB.instance Definition _ (U : baseAddUMagmaType) (S : addgClosed U) :=
+  isMulClosed.Build (multiplicative U) (rmultiplicative S)
+    (snd nmod_closed_subproof).
+#[export]
+HB.instance Definition _ (U : baseAddUMagmaType) (S : addgClosed U) :=
+  isMul1Closed.Build (multiplicative U) (rmultiplicative S)
+    (fst nmod_closed_subproof).
+#[export]
+HB.instance Definition _ (U : zmodType) (S : oppgClosed U) :=
+  isInvClosed.Build (multiplicative U) (rmultiplicative S) oppg_closed_subproof.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:741]: We need to add:
```coq
(* FIXME: HB.saturate *)
+#[export]
+HB.instance Definition _ (U : zmodType) (S : zmodClosed U) :=
+  InvClosed.on (rmultiplicative S).
```

File: mathcomp/ssreflect/comoid.v [hunk 86]
```diff
@@ -0,0 +1,1150 @@
...
+Lemma rpred0 : 0 \in S.
+Proof. by case: (@nmod_closed_subproof V S). Qed.
+Lemma rpredD : {in S &, forall u v, u + v \in S}.
+Proof. by case: (@nmod_closed_subproof V S). Qed.
+
+Lemma rpred0D : addumagma_closed S.
+Proof. exact: nmod_closed_subproof. Qed.
+
+Lemma rpredMn n : {in S, forall u, u *+ n \in S}.
+Proof. exact: (@gpredXn (multiplicative V) (rmultiplicative S)). Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:758]: We can omit the first argument.
```suggestion
Proof. exact: (@gpredXn _ (rmultiplicative S)). Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 87]
```diff
@@ -0,0 +1,1150 @@
...
+
+Section Opp.
+
+Variable S : oppgClosed V.
+
+Lemma rpredNr : {in S, forall u, - u \in S}.
+Proof. exact: oppg_closed_subproof. Qed.
+
+Lemma rpredN : {mono -%R: u / u \in S}.
+Proof. by move=> u; apply/idP/idP=> /rpredNr; rewrite ?oppgK; apply. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:774]:
```suggestion
Proof. exact: (gpredV (rmultiplicative S)). Qed.
```

File: mathcomp/ssreflect/comoid.v [hunk 88]
```diff
@@ -0,0 +1,1150 @@
...
+
+End Opp.
+
+Section Zmod.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:778]: We can omit the proofs in this section using `rmultiplicative`.

File: mathcomp/ssreflect/comoid.v [hunk 89]
```diff
@@ -0,0 +1,1150 @@
...
+HB.instance Definition _ :=
+  BaseAddUMagma_isAddUMagma.Build {ffun aT -> rT} ffun_add0g.
+
+End FinFunAddUMagma.
+
+Section FinFunNmod.
+Variable (aT : finType) (rT : nmodType).
+Implicit Types f g : {ffun aT -> rT}.
+
+HB.instance Definition _ := AddSemigroup.on {ffun aT -> rT}.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:1035]: This declaration also generates `ChoiceBaseAddMagma` and `ChoiceBaseAddUMagma` instances, that are not in their most general form.

File: mathcomp/ssreflect/comoid.v [hunk 90]
```diff
@@ -0,0 +1,1150 @@
...
+
+HB.instance Definition _ :=
+  BaseAddUMagma_isAddUMagma.Build (U * V)%type pair_add0g.
+
+End PairAddUMagma.
+
+Section PairNmodule.
+Variables U V : nmodType.
+
+HB.instance Definition _ := AddSemigroup.on (U * V)%type.
```
Comment (pi8027) [inline mathcomp/ssreflect/comoid.v:1121]: Same here.

File: mathcomp/ssreflect/monoid.v (hunk 64 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v:468]: `invg_div`

File: mathcomp/ssreflect/comoid.v (hunk 89 above)
Comment (pi8027) [reply mathcomp/ssreflect/comoid.v:1043]: Yes.

File: mathcomp/algebra/ssralg.v [hunk 91]
```diff
@@ -635,61 +619,55 @@ Section NmoduleTheory.
...
+Proof. exact: iter_addg. Qed.
 
 Lemma iter_addr_0 n x : iter n (+%R x) 0 = x *+ n.
-Proof. by rewrite iter_addr addr0. Qed.
+Proof. exact: iter_addg_0. Qed.
 
 Lemma sumrMnl I r P (F : I -> V) n :
   \sum_(i <- r | P i) F i *+ n = (\sum_(i <- r | P i) F i) *+ n.
-Proof. by rewrite (big_morph _ (mulrnDl n) (mul0rn _)). Qed.
+Proof. by rewrite (big_morph _ (mulrnDl n) (@mul0gn V _)). Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:670]: The proofs of `sumrMnl`, `sumrMnr`, `sumr_const`, and `sumr_const_nat` can be done in `comoid.v`.

File: mathcomp/algebra/ssralg.v [hunk 92]
```diff
@@ -747,87 +694,46 @@ Section ZmoduleTheory.
...
+Proof. exact: mulgnBl. Qed.
 
 Lemma mulrnBr x m n : n <= m -> x *+ (m - n) = x *+ m - x *+ n.
-Proof.
-elim: m n => [|m IHm] [|n le_n_m]; rewrite ?subr0 // {}IHm //.
-by rewrite mulrSr mulrS opprD addrA addrK.
-Qed.
+Proof. exact: mulgnBr. Qed.
 
 Lemma sumrN I r P (F : I -> V) :
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:738]: The proofs of `sumrN`, `sumrB`, `telescope_sumr`, and `telescope_sumr_eq` can be done in `comoid.v`.

File: mathcomp/algebra/ssralg.v [hunk 93]
```diff
@@ -701,41 +679,10 @@ Proof. by rewrite big_const -iteropE. Qed.
 Lemma sumr_const_nat m n x : \sum_(n <= i < m) x = x *+ (m - n).
 Proof. by rewrite big_const_nat iter_addr_0. Qed.
 
-Definition addr_closed (S : {pred V}) :=
-  0 \in S /\ {in S &, forall u v, u + v \in S}.
+Definition addr_closed := nmod_closed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:682]: `addr_closed S` is defined as a deprecation notation for `addg_closed S (:= {in S &, forall u v, u + v \in S})` in comoid.v, which is not the same as `nmod_closed S (:= addumagma_closed S := 0 \in S /\ addg_closed S)`.

File: mathcomp/algebra/ssralg.v [hunk 94]
```diff
@@ -857,17 +763,15 @@ Section ClosedPredicates.
 
 Variable S : {pred V}.
 
-Definition oppr_closed := {in S, forall u, - u \in S}.
-Definition subr_2closed := {in S &, forall u v, u - v \in S}.
-Definition zmod_closed := 0 \in S /\ subr_2closed.
-
+Definition oppr_closed := oppg_closed S.
+Definition subr_2closed := subg_2closed S.
+Definition zmod_closed := zmod_closed S.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:768]: Do we really need to redefine this with the same name?

File: mathcomp/algebra/ssralg.v [hunk 95]
```diff
@@ -857,17 +763,15 @@ Section ClosedPredicates.
...
 Lemma zmod_closedN : zmod_closed -> oppr_closed.
-Proof. by case=> S0 SB y Sy; rewrite -sub0r !SB. Qed.
+Proof. exact: zmod_closedN. Qed.
 
-Lemma zmod_closedD : zmod_closed -> addr_closed S.
-Proof.
-by case=> S0 SB; split=> // y z Sy Sz; rewrite -[z]opprK -[- z]sub0r !SB.
-Qed.
+Lemma zmod_closedD : zmod_closed -> nmod_closed S.
+Proof. by move=> z; split; [case: z|apply/zmod_closedD]. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:774]:
```suggestion
Proof. exact: zmod_closed0D. Qed.
```
Also `zmod_closedD` is not the same lemma in `comoid.v`.

File: mathcomp/algebra/ssralg.v [hunk 96]
```diff
@@ -1073,7 +973,7 @@ Lemma exprMn_n x m n : (x *+ m) ^+ n = x ^+ n *+ (m ^ n) :> R.
 Proof.
 elim: n => [|n IHn]; first by rewrite mulr1n.
 rewrite exprS IHn -mulr_natr -mulrA -commr_nat mulr_natr -mulrnA -expnSr.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:975]:
```suggestion
by rewrite exprS IHn mulrnAl mulrnAr -mulrnA exprS expnSr.
```

File: mathcomp/algebra/ssralg.v [hunk 97]
```diff
@@ -6165,28 +5769,10 @@ Notation "''exists' ''X_' i , f" := (Exists i f) : term_scope.
...
-HB.instance Definition _ := isNmodule.Build {ffun aT -> rT}
-  ffun_addA ffun_addC ffun_add0.
 
 Section Sum.
 
-Variables (I : Type) (r : seq I) (P : pred I) (F : I -> {ffun aT -> rT}).
+Variables (aT : finType) (rT : nmodType) (I : Type) (r : seq I) (P : pred I) (F : I -> {ffun aT -> rT}).
 
 Lemma sum_ffunE x : (\sum_(i <- r | P i) F i) x = \sum_(i <- r | P i) F i x.
 Proof. by elim/big_rec2: _ => // [|i _ y _ <-]; rewrite !ffunE. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:5778]: I think this section can be moved to `comoid.v`. Also, first lemma is probably just an instance of `raddf_sum`.

File: mathcomp/algebra/vector.v [hunk 98]
```diff
@@ -864,7 +864,7 @@ Lemma directv_sum_independent {Us : I -> {vspace vT}} :
 Proof.
 apply: (iffP directv_sumP) => [dxU us Uu u_0 i Pi | dxU i Pi].
   apply/eqP; rewrite -memv0 -(dxU i Pi) memv_cap Uu //= -memvN -sub0r -{1}u_0.
-  by rewrite (bigD1 i) //= addrC addKr memv_sumr // => j /andP[/Uu].
+  by rewrite (bigD1 i) //= addrC addrK memv_sumr // => j /andP[/Uu].
```
Comment (pi8027) [inline mathcomp/algebra/vector.v:867]: This change is caused by `rewrite addrC` selecting a different subterm (see coq/coq#16763). It would be a bit more robust if you select it explicitly (but it's not mandatory IMO):
```coq
  by rewrite (bigD1 i) //= [_ - us i]addrC addKr memv_sumr // => j /andP[/Uu].
```

File: mathcomp/algebra/ssralg.v [hunk 99]
```diff
@@ -635,61 +619,55 @@ Section NmoduleTheory.
...
-Lemma addrAC : @right_commutative V V +%R. Proof. exact: mulmAC. Qed.
-Lemma addrACA : @interchange V +%R +%R. Proof. exact: mulmACA. Qed.
+Lemma addr0 : right_id (@zero V) add.
+Proof. exact: addg0. Qed.
 
-Lemma mulr0n x : x *+ 0 = 0. Proof. by []. Qed.
-Lemma mulr1n x : x *+ 1 = x. Proof. by []. Qed.
-Lemma mulr2n x : x *+ 2 = x + x. Proof. by []. Qed.
+#[export]
+HB.instance Definition _ := Monoid.isComLaw.Build V 0 +%R addrA addrC add0r.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:635]: I prefer making `bigop` depend on `comoid` than the converse.

File: mathcomp/algebra/ssralg.v (hunk 91 above)
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:670]: I fixed the proof, but these lemmas belong to `bigop.v`, not `comoid.v`. I thought making this transition was out of the scope of this PR, but I can do it now if you want.

File: mathcomp/algebra/ssralg.v (hunk 95 above)
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:774]: Which convention do we prefer, the one in `comoid.v` where `D` stands for `addg/r_closed` and `0D` for `nmod_closed`, or the one in `ssralg.v` where `D` stands for `nmod_closed`?

File: mathcomp/algebra/ssralg.v (hunk 97 above)
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v:5778]: We are missing an instance on the evaluation at a point to do that.

**Comment by Tragicus** [comment]
The failure in analysis will be fixed by https://github.com/coq/coq/pull/19954 (this is actually the only instance I know of the issue). The one in mathcomp-reals I do not understand.
With the fix, I get a 17% slowdown (which is the same order of magnitude as in mathcomp). However, I see lines like https://github.com/math-comp/analysis/blob/4e298f709a437af5e0384e67618318053ecf1f60/theories/lebesgue_integral.v#L3591 which takes 12s on mathcomp/master and 16s with this PR and the issue could be avoided by using `exact` instead of `by`. Nevertheless, the issue is the unification of `\int[mu]_(x in D) f1^\+ x` with `\int[mu]_(x in D) f1^\- x` using the kernel's conversion algorithm. Is this algorithm know to have performance issues, especially with long lines of delta reductions?

File: mathcomp/ssreflect/bigop.v [hunk 100]
```diff
@@ -2,7 +2,7 @@
 (* Distributed under the terms of CeCILL-B.                                  *)
 From HB Require Import structures.
 From mathcomp Require Import ssreflect ssrbool ssrfun eqtype ssrnat seq path.
-From mathcomp Require Import div fintype tuple finfun.
+From mathcomp Require Import div fintype tuple finfun comoid.
```
Comment (pi8027) [inline mathcomp/ssreflect/bigop.v:5]: FYI, I still think that this dependency should be the opposite. The `bigop` structures are semi-bundled version of `monoid` and `comoid` structures. If we ever enable the sharing of lemmas between `bigop` and `comoid`, these lemmas should be stated at the `bigop` level. See also: Section 3.2 of https://inria.hal.science/hal-04008820v1/

Comment (Tragicus) [reply mathcomp/ssreflect/bigop.v:5]: Right, then I will also copy the bigop-related lemmas in `ssralg.v` to `comoid.v`. I will push as soon as I am ready and https://github.com/coq-community/apery/pull/26 is merged.

Comment (hivert) [reply mathcomp/ssreflect/bigop.v]: I agree with @pi8027. If I understand correctly what you are talking about, lemmas stated at the `bigop` level doesn't require a decidable equality whereas `comoid` inherits from  `choiceType` which forces you to have one.

Comment (pi8027) [reply mathcomp/ssreflect/bigop.v]: @hivert The main reason is that the overloaded `monoid` and `comoid` operators are `bigop` instances, and keyed matching allows us to use `bigop` lemmas for `monoid` and `comoid` instances, but the opposite does not work. (In practice, to remove `monoid` and `comoid` lemmas in favor of `bigop` lemmas, we first need a better `simpl` tactic.)

Comment (hivert) [reply mathcomp/ssreflect/bigop.v]: @pi8027 : Oh ! Thanks for the clarification.

**Comment by Tragicus** [comment]
I did `nix-shell --no-out-link --argstr bundle "coq-8.20" --argstr job "coqeal"` in my local repo with `master` checked out and got the exact same issue in `coqeal`. Does that mean the latter is also broken on master?

**Comment by proux01** [comment]
Master seems fine according to CI: https://github.com/math-comp/math-comp/actions/runs/13010085527/job/36287440370
So, you can try a rebase to be on the safe side, otheriwse that might be an actual issue in this PR?

**Comment by Tragicus** [comment]
I see, there is an elpi version issue. On master, it simplifies a term before counting the number of products it has, whereas on `2.2.0`, it returns `0` no questions asked. Is there a way to test if the issue persists with `mathcomp-master` and `elpi-2.2.0`?

**Comment by proux01** [comment]
Feel free to tweak the .nix/config.nix. That being said, I'm only expecting it to work on coq-elpi master. 2.2.0 doesn't work. C.f. https://github.com/math-comp/math-comp/blob/76cc466c843f97bc8757cd62e7ca0fd8be22c9bf/.nix/config.nix#L96 on master here.

**Comment by Tragicus** [comment]
Ah, hence the rebase. So hopefully it works and we run only one CI.

**Comment by pi8027** [comment]
@Tragicus Can you rebase this PR again? Then I can review (at least double-check that all the comments above are addressed).

File: mathcomp/ssreflect/monoid.v (hunk 2 above)
Comment (pi8027) [reply mathcomp/ssreflect/monoid.v]: I don't remember the conclusion on this point. Do we keep `natexp`, which is consistent with `natmul`?

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/monoid.v]: Since `magmaType` and `baseUMagmaType` do not inherit from `choiceType` (do bundle only operators), I don't see any issue in turning them into their instances on function types (and getting rid of `function_scope` notations below).
```coq
Section LiftedMagma.
Variables (T : Type) (G : magmaType).
Definition mul_fun (f g : T -> G) x := f x * g x.
HB.instance Definition _ := hasMul.Build (T -> G) mul_fun.
End LiftedMagma.
Section LiftedBaseUMagma.
Variables (T : Type) (G : baseUMagmaType).
Definition one_fun : T -> G := fun=> 1.
HB.instance Definition _ := hasOne.Build (T -> G) one_fun.
End LiftedBaseUMagma.
```

File: mathcomp/ssreflect/monoid.v (hunk 2 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: I would be in favor of keeping it.

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: True, but I think this should be postponed to a subsequent PR, this one is already way too big.

File: mathcomp/algebra/ssralg.v (hunk 99 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: FTR, we agreed that `comoid` should depend on `bigop`. https://github.com/math-comp/math-comp/pull/1256#discussion_r1928438362

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/monoid.v]: @Tragicus Can you open an issue just in case?

File: mathcomp/algebra/ssralg.v (hunk 99 above)
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/algebra/ssralg.v]: That is already done, right?

File: mathcomp/ssreflect/monoid.v (hunk 3 above)
Comment (Tragicus) [reply mathcomp/ssreflect/monoid.v]: https://github.com/math-comp/math-comp/issues/1362

File: mathcomp/algebra/ssralg.v (hunk 99 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Yes.

**Comment by pi8027** [comment]
Other comments:
- The naming inconsistencies of the `_closed` constants and lemmas in `comoid.v` and `ssralg.v` should be discussed in the MathComp meeting.
- Some part of the header documentation of `ssralg.v` should be moved to `monoid.v` and `comoid.v`, but it can be done after addressing all the other issues.
- Can we move some bigop instances and lemmas on `*%R` (except ones involving commutativity) from `ssralg.v` to `monoid.v`?

File: ssreflect/monoid.v [hunk 101]
```diff
@@ -0,0 +1,1205 @@
...
+
+End UMagma.
+
+Section Group.
+Variables (G H : groupType) (f : UMagmaMorphism.type G H).
+
+Lemma gmulfV : {morph f : x / x^-1}.
+Proof. by move=> x; apply/divg1_eq; rewrite invgK -gmulfM mulVg gmulf1. Qed.
+
+Lemma gmulfF : {morph f : x y / x / y}.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply ssreflect/monoid.v:737]: `F` is division, as is documented in the header.

**Comment by Tragicus** [comment]
As long as we copy everything in `ssralg`, we should keep the documentation, should we not?

**Comment by pi8027** [comment]
Sorry, I thought that the (semi)ring structures in `ssralg.v` now inherit from the structures in `monoid.v`, which is not the case. But, a part of the documentation about `nmodType` and `zmodType` is still in `ssralg.v` (l.174) and has to be moved to `comoid.v`.

**Comment by pi8027** [comment]
Ok, I see your point that `ssralg.v` keeps the copy of the stuff moved to `comoid.v`. But, `comoid.v` still lacks some documentation, e.g., `sum`, ``e`_i``, `support`, and `addr_closed`.

**Comment by Tragicus** [comment]
The comments should be addressed. I added iterated products in `monoid.v`, in the end.

**Comment by gares** [comment]
@CohenCyril suggested to base some work on this, but it seems it stalled. I can put some energy in this one, if you tell me where to put it.

**Comment by CohenCyril** [comment]
It's really not stalled. It is the pr where we need more input from the Jasmin side.

**Comment by gares** [comment]
Jasmin PR was merged, can we merge this before wednesday?

File: algebra/ssralg.v [hunk 102]
```diff
@@ -760,107 +718,69 @@ Section NmoduleTheory.
...
+Lemma addrAC : @right_commutative V V +%R. Proof. exact: addrAC. Qed.
+Lemma addrACA : @interchange V +%R +%R. Proof. exact: addrACA. Qed.
 
-Lemma mulrSr x n : x *+ n.+1 = x *+ n + x.
-Proof. by rewrite addrC mulrS. Qed.
+Lemma mulr0n x : x *+ 0 = 0. Proof. exact: mulr0n. Qed.
+Lemma mulr1n x : x *+ 1 = x. Proof. exact: mulr1n. Qed.
+Lemma mulr2n x : x *+ 2 = x + x. Proof. exact: mulr2n. Qed.
+Lemma mulrS x n : x *+ n.+1 = x + (x *+ n). Proof. exact: mulrS. Qed.
+Lemma mulrSr x n : x *+ n.+1 = x *+ n + x. Proof. exact: mulrSr. Qed.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply algebra/ssralg.v:741]: Probably not, but removing them breaks things.

**Review by CohenCyril — APPROVED** [review]
OK! Let's move on to the next task on this path.

**Comment by Tragicus** [comment]
The last bench on rocq9.0 says +25%.
